2160-12-30 05:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2160-12-29**] 08:59 PM
 INVASIVE VENTILATION - START [**2160-12-29**] 09:06 PM
   -Was running pressors on HD line. Now clots on HD line, levophed on
   peripheral.
   -a-line placed
   -on levophed, dopa
   -s/p HD at OSH, to get CVVH
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2160-12-30**] 05:00 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2160-12-30**] 01:00 AM
   Fentanyl - [**2160-12-30**] 02:30 AM
   Other medications:
   Versed
   Senna
   Colace
   Miconazole
   ISS
   Lidocaine Jelly
   Fluconazole
   Pantoprazole
   Vanco
   Heparin
   Dopamine
   Norepi
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-12-30**] 05:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 71 (63 - 84) bpm
   BP: 111/61(78) {52/35(40) - 141/86(107)} mmHg
   RR: 25 (17 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,777 mL
                                                                    539 mL
   PO:
             TF:
   IVF:
                                                                  1,277 mL
                                                                    539 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    140 mL
   Urine:
   140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,777 mL
                                                                    399 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 650) mL
   Vt (Spontaneous): 897 (392 - 897) mL
   PS : 12 cmH2O
   RR (Set): 28
   RR (Spontaneous): 3
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 36 cmH2O
   Plateau: 29 cmH2O
   Compliance: 27.6 cmH2O/mL
   SpO2: 100%
   ABG: 7.24/48/118/21/-6
   Ve: 10.1 L/min
   PaO2 / FiO2: 236
   Physical Examination
   Gen:  morbidly obese gentleman, lying in bed, intubated
   HEENT: no scleral icterus, pupils small but reactive
   NECK: right IJ dialysis line in place, no lymphadenopathy
   CV: difficult to hear
   LUNGS: coarse breath sounds bilaterally
   ABD: obese, hypoactive bowel sounds
   EXT: WWP, NO CCE. 2+ DP pulses BL
   SKIN: skin breakdown on bilateral flanks (left > right) with
   serosanguinous oozing, on multiple levels of panus and confluent areas
   NEURO: pupils small but reactive BL. moving both arms. Responding to
   voice and following commands.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   447 K/uL
   10.2 g/dL
   183 mg/dL
   5.2 mg/dL
   21 mEq/L
   6.4 mEq/L
   92 mg/dL
   99 mEq/L
   132 mEq/L
   32.2 %
   17.4 K/uL
        [image002.jpg]
   Ca free 1.10
   Fibrinogen 683
   CK 9890 to [**Numeric Identifier 4381**]
   MB 38 to 38
   MBI 0.4 to 0.3
   Trop T 0.03, to 0.03
                            [**2160-12-29**]  09:22 PM
                            [**2160-12-29**]  09:42 PM
                            [**2160-12-29**]  10:24 PM
                            [**2160-12-30**]  04:05 AM
                            [**2160-12-30**]  04:18 AM
   WBC
   16.2
   17.4
   Hct
   30.7
   32.2
   Plt
   389
   447
   Cr
   5.3
   5.2
   TropT
   0.03
   TCO2
   21
   22
   Glucose
   221
   202
   183
   Other labs: PT / PTT / INR:16.3/29.3/1.5, CK / CKMB /
   Troponin-T:[**Numeric Identifier 4381**]/38/0.03, ALT / AST:60/196, Alk Phos / T Bili:99/0.4,
   Fibrinogen:683 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:522
   IU/L, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL, PO4:7.9 mg/dL
   Assessment and Plan
   This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Shock, multiple possible etiology: sepsis with Potential sources
   include urine and most likely skin (multiple open areas with
   surrounding erythema and pus-like drainage). Other infectious source
   possible is pulmonary but unclear if could visualize on imaging (not
   noted on OSH films and have not obtained repeat film here).  Could also
   be cardiogenic shock. D Dimer positive. OSH. Obesity, stationary, dry
   many risks for DVT. BP decreases rapidly off pressor, suggesting
   Preload dependent and possible Right heart stain.
   - maintain MAP > 65 with dopamine & levophed
   - wean dopamine as bp tolerates
   - broad spectrum antibiotics including fungal coverage given diffuse
   fungal rash with vancomycin, zosyn, and fluconazole
   - goal cvp 10-12,
   - Placed new L IJ this am.
   -Skin culture of purelent material
   -attempt blood cultures
   -CXR this am
   - Echo to eval for EF, RH strain, evidence of PE.
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   - Appreciate renal input
   - CVVH for hyperkalemia
   - Foley placed by Urology this evening & we appreciate their help
   - monitor urine output
   - pending UA & lytes, culture, urine eos
   - contact PCP in AM to ascertain baseline renal function ([**Hospital1 4378**])
   .
   # Respiratory failure: Unclear precipitant. Patient has baseline
   respiratory difficulty at baseline and is not compliant with sleep
   apnea prescriptions (no cpap). He has been more dyspneic for several
   days per her report and more somnolent, likely a sign of hypercarbia.
   Could be that hypercarbia due to increased narcotics (percocet)
   precipitated respiratory failure. Given history of hypertension and
   acute renal failure with decrease urine output, could also represent
   flash pulmonary edema (very difficult to tell on CXR). PE is on
   differential and patient had elevated D dimer at OSH, but not
   tachycardic and would not anticoagulate given guaiac positive NG output
   earlier today.
   - continue A/C ventilation and tailor by ABGs. Plan to increase PEEP to
   overcome chest wall resistance. IF continues to desat consider
   esophageal manonmetry.
   - cover with antibiotics as above though pneumonia not most likely
   .
   # Metabolic acidosis: pH improving since arrival at OSH. Did receive
   bicarb fluids at OSH. Likely secondary to renal failure and component
   of lactic acidosis. Continue to trend.
   - CVVH for renal failure as above
   - trend lactate
   .
   # Guaiac + NG output: Noted at OSH. Hct ~ 30 since arrival at OSH. Will
   continue conservative treatment with PPI. Likely gastritis related to
   acute decompensation.
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   .
   # elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - trend cks
   - may need ivf to clear cks (on cvvh, ? if cleared via this mechanism)
   - repeat ekg in AM
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - continue to monitor oxygenation on ventilator
   .
   # Hyponatremia: STable since OSH. Likely related to volume depletion in
   setting of volume depletion.
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   - wound care consult
   - miconazole powder to affected areas
   - cover with iv antifungal as well given severity of skin breakdown and
   severity of illness
   -exam decubs when possible.
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**]. Unclear baseline and patient is
   Jehovah's witness so NO BLOOD PRODUCTS.
   - can resume iron supplement when taking POs
   .
   # Type 2 DM: Sliding scale insulin for now. Consider insulin gtt if
   blood sugars out of control.
   - hold oral hypoglycemics for now
   .
   # Hypertension: Holding all antihypertensives for now until BP
   stabilized and off pressors.
   .
   # GERd: continue ppi as above.
   .
   # FEN: npo for now, lytes per CVVH
   .
   # PPx: heparin sc tid, consider supradose of heparin given size, ppi
   [**Hospital1 **], will give bowel meds prn
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: icu care for now
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-12-29**] 08:36 PM
   Dialysis Catheter - [**2160-12-29**] 08:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-12-31 05:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2160-12-30**] 10:00 AM
   US for central line placement
 MULTI LUMEN - START [**2160-12-30**] 10:40 AM
 BLOOD CULTURED - At [**2160-12-30**] 03:00 PM
 BLOOD CULTURED - At [**2160-12-30**] 04:30 PM
 URINE CULTURE - At [**2160-12-30**] 05:00 PM
 FEVER - 101.8
F - [**2160-12-30**] 12:00 PM
   - seen by wound care, recs in chart and orders in for wound care
   - OG tube placed in AM
   - stopped dialysis at 0245, issues with machine, improved Cr, K
   still high, will give kayexalate per OGT
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2160-12-30**] 03:00 PM
   Vancomycin - [**2160-12-30**] 06:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2160-12-31**] 03:50 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2.5 mg/hour
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2160-12-30**] 05:30 AM
   Pantoprazole (Protonix) - [**2160-12-30**] 08:57 PM
   Heparin Sodium (Prophylaxis) - [**2160-12-31**] 12:37 AM
   Insulin - Regular - [**2160-12-31**] 04:00 AM
   Dextrose 50% - [**2160-12-31**] 04:00 AM
   Other medications:
   Vanco
   Zosyn
   Senna
   Lactulose
   Colace
   Heparin
   Vanco
   Sodium polystyrene sulfonate
   Miconazole
   Fentanyl versed
   Senna
   Miconazole
   Iss
   Chlorhexidine
   Fluconazole (rejected by ID)
   Pantoprazole
   Norepi
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-12-31**] 05:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.5
C (99.5
   HR: 74 (70 - 81) bpm
   BP: 132/63(83) {89/48(63) - 139/136(137)} mmHg
   RR: 28 (16 - 28) insp/min
   SpO2: 98% (96-100)
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,316 mL
                                                                  1,443 mL
   PO:
             TF:
   IVF:
                                                                  4,266 mL
                                                                  1,393 mL
   Blood products:
   Total out:
                                                                  1,555 mL
                                                                  2,041 mL
   Urine:
                                                                  1,440 mL
                                                                  1,310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,761 mL
                                                                   -598 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 28
   RR (Spontaneous): 0
   PEEP: 15 cmH2O
   FiO2: 40%
   PIP: 31 cmH2O
   Plateau: 28 cmH2O
   SpO2: 98%
   ABG: 7.40/34/150/20/-2
   Ve: 12.6 L/min
   PaO2 / FiO2: 375
   Physical Examination
   Gen:  morbidly obese gentleman, lying in bed, intubated
   HEENT: no scleral icterus, pupils small but reactive
   NECK: right IJ dialysis line in place, no lymphadenopathy
   CV: difficult to hear
   LUNGS: coarse breath sounds bilaterally, difficult to hear
   ABD: obese, hypoactive bowel sounds. Grimace Left abd
   EXT: trace edema. Grimacing to palpation R>L leg
   SKIN: skin breakdown on bilateral flanks (left > right) with
   serosanguinous oozing, on multiple levels of panus and confluent areas
   NEURO: pupils small but reactive BL. moving both arms. Responding to
   voice and following commands.
   Labs / Radiology
   350 K/uL
   10.2 g/dL
   176 mg/dL
   3.5 mg/dL
   20 mEq/L
   5.6 mEq/L
   73 mg/dL
   105 mEq/L
   138 mEq/L
   29.8 %
   17.4 K/uL
        [image002.jpg]
   HCT 13.2, HCT 28.1,
   Cr 3.3, K 5.4, HCO 21,
   CK 7051, Trop 0.02
   Micro: urine neg, blood pending
   UA: neg
   LFTs stable
                            [**2160-12-29**]  09:22 PM
                            [**2160-12-29**]  09:42 PM
                            [**2160-12-29**]  10:24 PM
                            [**2160-12-30**]  04:05 AM
                            [**2160-12-30**]  04:18 AM
                            [**2160-12-30**]  02:22 PM
                            [**2160-12-30**]  02:37 PM
                            [**2160-12-30**]  08:00 PM
                            [**2160-12-31**]  02:34 AM
                            [**2160-12-31**]  02:36 AM
   WBC
   16.2
   17.4
   Hct
   30.7
   32.2
   29.8
   Plt
   389
   447
   350
   Cr
   5.3
   5.2
   4.7
   3.5
   TropT
   0.03
   0.03
   TCO2
   21
   22
   21
   21
   22
   Glucose
   221
   202
   183
   177
   187
   176
   Other labs: PT / PTT / INR:17.3/32.7/1.6, CK / CKMB /
   Troponin-T:[**Numeric Identifier 4381**]/38/0.03, ALT / AST:60/196, Alk Phos / T Bili:99/0.4,
   Fibrinogen:683 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.6 g/dL, LDH:522
   IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Shock, multiple possible etiology: sepsis with Potential sources
   include urine and most likely skin (multiple open areas with
   surrounding erythema and pus-like drainage). Other infectious source
   possible is pulmonary but unclear if could visualize on imaging (not
   noted on OSH films and have not obtained repeat film here).  Could also
   be cardiogenic shock. D Dimer positive. OSH. Obesity, stationary, dry
   many risks for DVT. BP decreases rapidly off pressor, suggesting
   Preload dependent and possible Right heart stain.
   - maintain MAP > 65 with dopamine & levophed
   - wean dopamine as bp tolerates
   - broad spectrum antibiotics including fungal coverage given diffuse
   fungal rash with vancomycin, zosyn, and fluconazole
   - goal cvp 10-12,
   - Placed new L IJ this am.
   -Skin culture of purelent material
   -attempt blood cultures
   -CXR this am
   - Echo to eval for EF, RH strain, evidence of PE.
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   - Appreciate renal input
   - CVVH for hyperkalemia
   - Foley placed by Urology this evening & we appreciate their help
   - monitor urine output
   - pending UA & lytes, culture, urine eos
   - contact PCP in AM to ascertain baseline renal function ([**Hospital1 4378**])
   .
   # Respiratory failure: Unclear precipitant. Patient has baseline
   respiratory difficulty at baseline and is not compliant with sleep
   apnea prescriptions (no cpap). He has been more dyspneic for several
   days per her report and more somnolent, likely a sign of hypercarbia.
   Could be that hypercarbia due to increased narcotics (percocet)
   precipitated respiratory failure. Given history of hypertension and
   acute renal failure with decrease urine output, could also represent
   flash pulmonary edema (very difficult to tell on CXR). PE is on
   differential and patient had elevated D dimer at OSH, but not
   tachycardic and would not anticoagulate given guaiac positive NG output
   earlier today.
   - continue A/C ventilation and tailor by ABGs. Plan to increase PEEP to
   overcome chest wall resistance. IF continues to desat consider
   esophageal manonmetry.
   - cover with antibiotics as above though pneumonia not most likely
   .
   # Metabolic acidosis: pH improving since arrival at OSH. Did receive
   bicarb fluids at OSH. Likely secondary to renal failure and component
   of lactic acidosis. Continue to trend.
   - CVVH for renal failure as above
   - trend lactate
   .
   # Guaiac + NG output: Noted at OSH. Hct ~ 30 since arrival at OSH. Will
   continue conservative treatment with PPI. Likely gastritis related to
   acute decompensation.
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   .
   # elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - trend cks
   - may need ivf to clear cks (on cvvh, ? if cleared via this mechanism)
   - repeat ekg in AM
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - continue to monitor oxygenation on ventilator
   .
   # Hyponatremia: STable since OSH. Likely related to volume depletion in
   setting of volume depletion.
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   - wound care consult
   - miconazole powder to affected areas
   - cover with iv antifungal as well given severity of skin breakdown and
   severity of illness
   -exam decubs when possible.
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**]. Unclear baseline and patient is
   Jehovah's witness so NO BLOOD PRODUCTS.
   - can resume iron supplement when taking POs
   .
   # Type 2 DM: Sliding scale insulin for now. Consider insulin gtt if
   blood sugars out of control.
   - hold oral hypoglycemics for now
   .
   # Hypertension: Holding all antihypertensives for now until BP
   stabilized and off pressors.
   .
   # GERd: continue ppi as above.
   .
   # FEN: npo for now, lytes per CVVH
   .
   # PPx: heparin sc tid, consider supradose of heparin given size, ppi
   [**Hospital1 **], will give bowel meds prn
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: icu care for now
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2160-12-29**] 08:36 PM
   Dialysis Catheter - [**2160-12-29**] 08:59 PM
   Arterial Line - [**2160-12-30**] 07:00 AM
   18 Gauge - [**2160-12-30**] 08:30 AM
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-01 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2160-12-31**] 01:00 PM
 BLOOD CULTURED - At [**2160-12-31**] 03:00 PM
 ARTERIAL LINE - STOP [**2160-12-31**] 06:00 PM
   pt had Aline when this RN started shift at 0700, was not documented.
   Documenting start time when this RN came on at 0700.
 ARTERIAL LINE - START [**2160-12-31**] 06:00 PM
   A line replaced as [**Location (un) **] was inaccurate
   -TEE:LVEF>55%; Normal left and right ventricular systolic function. No
   masses or vegetations are seen on the aortic or the mitral valve. There
   is no pericardial effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2160-12-31**] 08:00 PM
   Fluconazole - [**2160-12-31**] 08:00 PM
   Levofloxacin - [**2160-12-31**] 09:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-1**] 06:01 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Midazolam (Versed) - 2.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2160-12-31**] 04:00 PM
   Other medications:
   Fluconazole
   Vanco
   Fluconazole
   Zosyn
   Senna
   Lactulose
   Colace
   Heparin
   Miconazole
   Fentanyl
   Versed
   ISS
   Chlorhexidine
   Pantoprazole
   norepi
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-1**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.7
C (99.9
   HR: 81 (72 - 91) bpm
   BP: 121/51(69) {97/41(57) - 173/159(262)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 96% (95-100)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,356 mL
                                                                    506 mL
   PO:
             TF:
             93 mL
   IVF:
                                                                  3,246 mL
                                                                    414 mL
   Blood products:
   Total out:
                                                                  4,941 mL
                                                                  1,280 mL
   Urine:
                                                                  4,210 mL
                                                                  1,280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,585 mL
                                                                   -774 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 433 (298 - 433) mL
   PS : 12 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 41 cmH2O
   Plateau: 27 cmH2O
   SpO2: 96%
   ABG: 7.33/46/101/23/-1
   Ve: 10.9 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Gen:  morbidly obese gentleman, lying in bed, intubated
   HEENT: no scleral icterus, pupils small but reactive
   NECK: right IJ dialysis line in place, no lymphadenopathy
   CV: difficult to hear
   LUNGS: coarse breath sounds bilaterally, difficult to hear
   ABD: obese, hypoactive bowel sounds. Grimace bilateral abd
   EXT: trace edema. Grimacing to palpation R>L leg
   SKIN: skin breakdown on bilateral flanks (left > right) with
   serosanguinous oozing, on multiple levels of panus and confluent areas.
   Appears less erythematous today
   NEURO: pupils small but reactive BL. moving both arms. Responding to
   voice and following commands.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   8.6 g/dL
   166 mg/dL
   2.6 mg/dL
   23 mEq/L
   6.3 mEq/L
   63 mg/dL
   107 mEq/L
   137 mEq/L
   26.5 %
   8.8 K/uL
        [image002.jpg]
   Vanco 23.9
   Hct 28.1 to 26.5
   K repeat 5.0,
   CRP 273.5, ESR 57
   Micro: [**12-30**] Urine NG
   [**1-1**] Urine legionella neg
   [**12-30**], [**12-31**] Blood pending
   Xray bl foot read pending
   Echo: TEE:LVEF>55%; Normal left and right ventricular systolic
   function. No masses or vegetations are seen on the aortic or the mitral
   valve. There is no pericardial effusion.
                            [**2160-12-30**]  02:37 PM
                            [**2160-12-30**]  08:00 PM
                            [**2160-12-31**]  02:34 AM
                            [**2160-12-31**]  02:36 AM
                            [**2160-12-31**]  07:23 AM
                            [**2160-12-31**]  08:02 AM
                            [**2160-12-31**]  01:26 PM
                            [**2160-12-31**]  02:15 PM
                            [**2161-1-1**]  03:44 AM
                            [**2161-1-1**]  04:09 AM
   WBC
   13.2
   8.8
   Hct
   29.8
   28.1
   26.5
   Plt
   350
   317
   276
   Cr
   3.5
   3.3
   3.1
   2.6
   TropT
   0.02
   TCO2
   21
   21
   22
   22
   24
   25
   Glucose
   187
   176
   157
   146
   166
   Other labs: PT / PTT / INR:19.8/35.9/1.8, CK / CKMB /
   Troponin-T:4290/9/0.02, ALT / AST:75/167, Alk Phos / T Bili:82/0.5,
   Amylase / Lipase:20/36, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:3.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:844 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Shock, multiple possible etiology: sepsis, potential sources include
   skin (multiple open areas with surrounding erythema and pus-like
   drainage). UA and U cult negative, CXR clear.  Blood cultures remain
   negative.  Echo negative for signs of right heart strain making PE less
   likely
   - Unreliable BP with A-line (poor wave form) and BP cuff (on forearm).
   Unclear if numbers actually correlate with actual BP. Therefore will
   remove aline. Stop pressors.  Will monitor UO, HR was signs of
   decreased perfusion
   - continue broad spectrum antibiotics including fungal coverage given
   diffuse fungal rash with vancomycin, zosyn. ID consulted and approved
   fluconazole. Increased fluconazole to 200mg q24h.  Was started on levo
   to cover legionella. However stoped today since urine antigen negative.
   - goal cvp 10-12,
   - f/u cultures
   - TEE with good EF, no RV strain, no valve plaque to suggest
   endocarditis.
   -today grimacing to BL abd and BL leg palpation. Intra abd pathology
   possible but unable to image.
   -follow up foot xrays to look for signs of osteo.
   -check TSH
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   However high Cr elevation inconsistent with short time course
   - Appreciate renal input
   - CVVH for hyperkalemia ended [**Date range (1) 4444**] O/N. Good urine outpt, Cr
   downtrending since that time. Self diuresing
   - Foley placed by Urology
   - monitor urine output
   - UA negative, no eos seen
   - contact[**Name (NI) **] PCP awaiting records from previous lab draws for baseline
   Cr.
   .
   # Respiratory failure: Unclear precipitant. Patient has baseline
   respiratory difficulty at baseline and is not compliant with sleep
   apnea prescriptions (no cpap). He has been more dyspneic for several
   days per her report and more somnolent, likely a sign of hypercarbia.
   Could be that hypercarbia due to increased narcotics (percocet)
   precipitated respiratory failure. Given history of hypertension and
   acute renal failure with decrease urine output, could also represent
   flash pulmonary edema (very difficult to tell on CXR). PE is on
   differential and patient had elevated D dimer at OSH, but not
   tachycardic and would not anticoagulate given guaiac positive NG output
   - Tolerated CPAP most of day yesterday back to CMV O/N to rest
   - cover with antibiotics as above though pneumonia not most likely
   -echo without signs of PE
   -plan to extubate after significant diuresis
   .
   #abd pain: grimacing to palpation. No clear etiology , possible
   intra-abd process but unable to image. Started lactulose yesterday for
   constipation
   -BM yesterday
   - trend exam
   .
   # Guaiac + NG output: Noted at OSH. Hct ~ 30 since arrival at OSH. Will
   continue conservative treatment with PPI. Likely gastritis related to
   acute decompensation. Continued guaiac pos NG outpt
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   .
   # elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - trend cks, continue to downtrend
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   - wound care consult
   - miconazole powder to affected areas
   - IV fluconazole
   -decubs large areas of skin breakdown BL above buttock
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**]. Unclear baseline and patient is
   Jehovah's witness so NO BLOOD PRODUCTS.
   -          can resume iron supplement when taking Pos
   -          check Fe, B12, folate
   .
   # Type 2 DM: Sliding scale insulin for now. Consider insulin gtt if
   blood sugars out of control.
   - hold oral hypoglycemics for now
   .
   # Hypertension: Holding all antihypertensives for now until BP
   stabilized and off pressors.
   .
   # GERd: continue ppi as above.
   .
   # FEN: OG placed, TF recs appreciated. No IVF for now, continue
   diuresis
   .
   # PPx: heparin sc tid, ppi [**Hospital1 **], started lactulose yesterday.
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: icu care for now, start screening for inpatient rehab/ weight
   loss program
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Nutren Renal ([**3-18**]) - [**2161-1-1**] 12:00 AM 15 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2160-12-29**] 08:59 PM
   18 Gauge - [**2160-12-30**] 08:30 AM
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Arterial Line - [**2160-12-31**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-02 05:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2161-1-1**] 12:47 PM
 BLOOD CULTURED - At [**2161-1-1**] 08:58 PM
 WOUND CULTURE - At [**2161-1-1**] 10:20 PM
 URINE CULTURE - At [**2161-1-1**] 10:30 PM
 FEVER - 101.1
F - [**2161-1-1**] 08:00 PM
   - X-ray feet no sign [**Year (4 digits) 4471**]
   -tolerated PS most of night
   - d/ced aline unreliable, not trusting cuff BP either. D/ced levophed
   and monitored UO, UO decreased to 40 /hr at first, by 3 am UO 10 cc/hr,
   restarted Levophed gtt.
   -vanco trough 23.9, dose held, repeating trough this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2160-12-31**] 09:00 PM
   Vancomycin - [**2161-1-1**] 08:39 AM
   Fluconazole - [**2161-1-1**] 08:39 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-1**] 10:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-2**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.6
C (99.7
   HR: 79 (78 - 94) bpm
   BP: 132/56(72) {79/24(39) - 132/64(77)} mmHg
   RR: 16 (16 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,014 mL
                                                                    356 mL
   PO:
             TF:
                                                                    572 mL
                                                                    201 mL
   IVF:
                                                                  1,442 mL
                                                                    155 mL
   Blood products:
   Total out:
                                                                  2,945 mL
                                                                    185 mL
   Urine:
                                                                  2,945 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -931 mL
                                                                    171 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 575 (524 - 578) mL
   PS : 18 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 9.5 L/min
   Physical Examination
   Gen:  morbidly obese gentleman, lying in bed, intubated
   HEENT: no scleral icterus, pupils small but reactive
   NECK: right IJ dialysis line in place, no lymphadenopathy
   CV: difficult to hear
   LUNGS: coarse breath sounds bilaterally, difficult to hear
   ABD: obese, hypoactive bowel sounds. Grimace bilateral abd
   EXT: trace edema. Grimacing to palpation R>L leg
   SKIN: skin breakdown on bilateral flanks (left > right) with
   serosanguinous oozing, on multiple levels of panus and confluent areas.
   Appears less erythematous today
   NEURO: pupils small but reactive BL. moving both arms. Responding to
   voice and following commands.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   276 K/uL
   8.6 g/dL
   166 mg/dL
   2.6 mg/dL
   23 mEq/L
   5.0 mEq/L
   63 mg/dL
   107 mEq/L
   137 mEq/L
   26.5 %
   8.8 K/uL
        [image002.jpg]
                            [**2160-12-30**]  02:37 PM
                            [**2160-12-30**]  08:00 PM
                            [**2160-12-31**]  02:34 AM
                            [**2160-12-31**]  02:36 AM
                            [**2160-12-31**]  07:23 AM
                            [**2160-12-31**]  08:02 AM
                            [**2160-12-31**]  01:26 PM
                            [**2160-12-31**]  02:15 PM
                            [**2161-1-1**]  03:44 AM
                            [**2161-1-1**]  04:09 AM
   WBC
   13.2
   8.8
   Hct
   29.8
   28.1
   26.5
   Plt
   350
   317
   276
   Cr
   3.5
   3.3
   3.1
   2.6
   TropT
   0.02
   TCO2
   21
   21
   22
   22
   24
   25
   Glucose
   187
   176
   157
   146
   166
   Other labs: PT / PTT / INR:19.8/35.9/1.8, CK / CKMB /
   Troponin-T:4290/9/0.02, ALT / AST:75/167, Alk Phos / T Bili:82/0.5,
   Amylase / Lipase:20/36, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:3.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:844 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Shock, multiple possible etiology: sepsis, potential sources include
   skin (multiple open areas with surrounding erythema and pus-like
   drainage). UA and U cult negative, CXR clear.  Blood cultures remain
   negative.  Echo negative for signs of right heart strain making PE less
   likely.  Gram stain from fluid collected from groin showed GNRs, Decub
   ulcers on back a mix of stage 2 and 3 with reduction in erythema.
   - Unreliable BP with A-line (poor wave form) and BP cuff (on forearm).
   Unclear if numbers actually correlate with actual BP. Therefore will
   remove aline. Stop pressors.  Will monitor UO, HR was signs of
   decreased perfusion
   - continue broad spectrum antibiotics including fungal coverage given
   diffuse fungal rash with vancomycin, zosyn. ID consulted and approved
   fluconazole. Increased fluconazole to 200mg q24h.
   - goal cvp 10-12,
   - f/u cultures
   - TEE with good EF, no RV strain, no valve plaque to suggest
   endocarditis.
   -today grimacing to Left leg palpation. Will have LLE Doppler u/s  -
   attempt to assess DVT
   -foot xryas show no obvious signs of [**Last Name (LF) 4471**], [**First Name3 (LF) **] continue to eval prn
   -check TSH, cortisol levels
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   However high Cr elevation inconsistent with short time course
   - Appreciate renal input
   - CVVH for hyperkalemia ended [**Date range (1) 4444**] O/N. Good urine outpt, Cr
   downtrending since that time. Self diuresing
   - Foley placed by Urology
   - monitor urine output
   - UA negative, no eos seen
   - contact[**Name (NI) **] PCP awaiting records from previous lab draws for baseline
   Cr, however, Cr improved significantly from 3.1 -> 2.6
   .
   # Respiratory failure: Unclear precipitant. Patient has baseline
   respiratory difficulty at baseline and is not compliant with sleep
   apnea prescriptions (no cpap). He has been more dyspneic for several
   days per her report and more somnolent, likely a sign of hypercarbia.
   Could be that hypercarbia due to increased narcotics (percocet)
   precipitated respiratory failure. Given history of hypertension and
   acute renal failure with decrease urine output, could also represent
   flash pulmonary edema (very difficult to tell on CXR). PE is on
   differential and patient had elevated D dimer at OSH, but not
   tachycardic and would not anticoagulate given guaiac positive NG output
   - On CPAP, will keep on vent and continue to diurese to set-up
   favorable extubation
   -echo without signs of PE
   -plan to extubate after significant diuresis
   .
   #LLE/abd pain: grimacing to palpation. No clear etiology , possible
   intra-abd process but unable to image. Started lactulose yesterday for
   constipation
   -BM yesterday
   - trend exam
   -doppler U/s of Left leg
   .
   # Guaiac + NG output: Noted at OSH. Hct ~ 30 since arrival at OSH. Will
   continue conservative treatment with PPI. Likely gastritis related to
   acute decompensation. Continued guaiac pos NG outpt
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   - will revisit issue with patient when alert and able to discuss
   options
   .
   # elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - trend cks, continue to downtrend
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   - wound care continues to visit and evaluate
   - miconazole powder to affected areas
   - IV fluconazole
   -decubs large areas of skin breakdown BL above buttock
   - will add debriding agents to left abdominal skin and decubitus
   ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**]. Unclear baseline and patient is
   Jehovah's witness so NO BLOOD PRODUCTS.
   -can resume iron supplement when taking Pos
   -check Fe, B12, folate
   -low retic and poor iron studies suggest anemia of chronic disease
   #Thrombocytopenia
 decreasing platelets since admission, ? heparin rxn
   - d/c heparin, heparin ab
s sent,
   - start fundaparinux, LMH levels 3 hours post admin and adjust dosage
   - check platelets in absence of heparin
   .
   # Type 2 DM: Sliding scale insulin for now. Consider insulin gtt if
   blood sugars out of control.
   -hold oral hypoglycemics for now
   .
   # Hypertension: Holding all antihypertensives, back on pressors
   .
   # GERd: continue ppi as above.
   .
   # FEN: OG placed, TFs ongoing. No IVF for now, continue diuresis
   .
   # PPx: heparin sc tid, ppi [**Hospital1 **], started lactulose yesterday.
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: icu care for now, start screening for inpatient rehab/ weight
   loss program
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Nutren Renal ([**3-18**]) - [**2161-1-1**] 04:01 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2160-12-29**] 08:59 PM
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-03 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2161-1-2**] 02:51 PM
   - stage 2 and 3 decubitus ulcers over backside with some erythema,
   started using debriding agents over certain areas on decubs and L
   pannus areas per wound care
   - ID recs are to continue current antibitotic regimen
   - random cortisol was 15.2 - ? of appropriate response - set up for
   stim test this AM
   - on 0.08 of levophed overnight, following UOP for response - 100cc/hr,
   dropped back to 0.05 this AM
   - switched anticoagulation to fondaparinux, sent HIT ab's and LMWH
   heparin level pends (may need to increase [**Last Name (un) 4477**] dose)
   - started on EPO b/c of low hct and Jehovah's witness - unable t
   discuss actual desires of pt y/d
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2160-12-31**] 09:00 PM
   Fluconazole - [**2161-1-2**] 08:00 AM
   Vancomycin - [**2161-1-2**] 12:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-3**] 12:07 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Fondaparinux - [**2161-1-2**] 04:00 PM
   Pantoprazole (Protonix) - [**2161-1-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-3**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.9
C (100.3
   HR: 83 (77 - 93) bpm
   BP: 97/43(55) {88/31(45) - 125/110(114)} mmHg
   RR: 18 (16 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,685 mL
                                                                    455 mL
   PO:
             TF:
                                                                  1,150 mL
                                                                    171 mL
   IVF:
                                                                  1,435 mL
                                                                    284 mL
   Blood products:
   Total out:
                                                                  2,215 mL
                                                                    510 mL
   Urine:
                                                                  1,665 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    470 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 469 (451 - 610) mL
   PS : 18 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   163 K/uL
   8.2 g/dL
   156 mg/dL
   2.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   60 mg/dL
   112 mEq/L
   144 mEq/L
   26.7 %
   11.5 K/uL
        [image002.jpg]
                            [**2160-12-30**]  08:00 PM
                            [**2160-12-31**]  02:34 AM
                            [**2160-12-31**]  02:36 AM
                            [**2160-12-31**]  07:23 AM
                            [**2160-12-31**]  08:02 AM
                            [**2160-12-31**]  01:26 PM
                            [**2160-12-31**]  02:15 PM
                            [**2161-1-1**]  03:44 AM
                            [**2161-1-1**]  04:09 AM
                            [**2161-1-2**]  06:35 AM
   WBC
   13.2
   8.8
   11.5
   Hct
   29.8
   28.1
   26.5
   26.7
   Plt
   350
   317
   276
   163
   Cr
   3.5
   3.3
   3.1
   2.6
   2.5
   TropT
   0.02
   TCO2
   21
   22
   22
   24
   25
   Glucose
   187
   176
   157
   146
   166
   156
   Other labs: PT / PTT / INR:19.8/35.9/1.8, CK / CKMB /
   Troponin-T:4290/9/0.02, ALT / AST:75/167, Alk Phos / T Bili:82/0.5,
   Amylase / Lipase:20/36, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:3.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:471 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Shock, multiple possible etiology: sepsis, potential sources include
   skin (multiple open areas with surrounding erythema and pus-like
   drainage). UA and U cult negative, CXR clear.  Blood cultures remain
   negative.  Echo negative for signs of right heart strain making PE less
   likely.  Gram stain from fluid collected from groin showed GNRs, Decub
   ulcers on back a mix of stage 2 and 3 with reduction in erythema.
   - Unreliable BP with A-line (poor wave form) and BP cuff (on forearm).
   Unclear if numbers actually correlate with actual BP. Therefore will
   remove aline. Stop pressors.  Will monitor UO, HR was signs of
   decreased perfusion
   - continue broad spectrum antibiotics including fungal coverage given
   diffuse fungal rash with vancomycin, zosyn. ID consulted and approved
   fluconazole. Increased fluconazole to 200mg q24h.
   - goal cvp 10-12,
   - f/u cultures
   - TEE with good EF, no RV strain, no valve plaque to suggest
   endocarditis.
   -today grimacing to Left leg palpation. Will have LLE Doppler u/s  -
   attempt to assess DVT
   -foot xryas show no obvious signs of [**Last Name (LF) 4471**], [**First Name3 (LF) **] continue to eval prn
   -check TSH, cortisol levels
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   However high Cr elevation inconsistent with short time course
   - Appreciate renal input
   - CVVH for hyperkalemia ended [**Date range (1) 4444**] O/N. Good urine outpt, Cr
   downtrending since that time. Self diuresing
   - Foley placed by Urology
   - monitor urine output
   - UA negative, no eos seen
   - contact[**Name (NI) **] PCP awaiting records from previous lab draws for baseline
   Cr, however, Cr improved significantly from 3.1 -> 2.6
   .
   # Respiratory failure: Unclear precipitant. Patient has baseline
   respiratory difficulty at baseline and is not compliant with sleep
   apnea prescriptions (no cpap). He has been more dyspneic for several
   days per her report and more somnolent, likely a sign of hypercarbia.
   Could be that hypercarbia due to increased narcotics (percocet)
   precipitated respiratory failure. Given history of hypertension and
   acute renal failure with decrease urine output, could also represent
   flash pulmonary edema (very difficult to tell on CXR). PE is on
   differential and patient had elevated D dimer at OSH, but not
   tachycardic and would not anticoagulate given guaiac positive NG output
   - On CPAP, will keep on vent and continue to diurese to set-up
   favorable extubation
   -echo without signs of PE
   -plan to extubate after significant diuresis
   .
   #LLE/abd pain: grimacing to palpation. No clear etiology , possible
   intra-abd process but unable to image. Started lactulose yesterday for
   constipation
   -BM yesterday
   - trend exam
   -doppler U/s of Left leg
   .
   # Guaiac + NG output: Noted at OSH. Hct ~ 30 since arrival at OSH. Will
   continue conservative treatment with PPI. Likely gastritis related to
   acute decompensation. Continued guaiac pos NG outpt
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   - will revisit issue with patient when alert and able to discuss
   options
   .
   # elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - trend cks, continue to downtrend
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   - wound care continues to visit and evaluate
   - miconazole powder to affected areas
   - IV fluconazole
   -decubs large areas of skin breakdown BL above buttock
   - will add debriding agents to left abdominal skin and decubitus
   ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**]. Unclear baseline and patient is
   Jehovah's witness so NO BLOOD PRODUCTS.
   -can resume iron supplement when taking Pos
   -check Fe, B12, folate
   -low retic and poor iron studies suggest anemia of chronic disease
   #Thrombocytopenia
 decreasing platelets since admission, ? heparin rxn
   - d/c heparin, heparin ab
s sent,
   - start fundaparinux, LMH levels 3 hours post admin and adjust dosage
   - check platelets in absence of heparin
   .
   # Type 2 DM: Sliding scale insulin for now. Consider insulin gtt if
   blood sugars out of control.
   -hold oral hypoglycemics for now
   .
   # Hypertension: Holding all antihypertensives, back on pressors
   .
   # GERd: continue ppi as above.
   .
   # FEN: OG placed, TFs ongoing. No IVF for now, continue diuresis
   .
   # PPx: heparin sc tid, ppi [**Hospital1 **], started lactulose yesterday.
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: icu care for now, start screening for inpatient rehab/ weight
   loss program
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2160-12-29**] 08:59 PM
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-03 11:32:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure, sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Changes in skin care
   ID consult
   Cortisol 15 --> planned stim test
   levophed 0.8
   Changed prophylaxis to fondaparinux for ?ofHIT
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2160-12-31**] 09:00 PM
   Vancomycin - [**2161-1-2**] 12:17 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-3**] 06:34 AM
   Fluconazole - [**2161-1-3**] 09:15 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.04 mcg/Kg/min
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Fondaparinux - [**2161-1-2**] 04:00 PM
   Pantoprazole (Protonix) - [**2161-1-3**] 09:15 AM
   Other medications:
   PPI, CHG, SQI, Versed, fentanyl, miconazole, colace, lactulose, zosyn,
   fluconazole, vanco, epo, fondaparinux 2.5 qd
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-3**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.9
   HR: 83 (77 - 92) bpm
   BP: 103/44(57) {82/25(38) - 125/110(114)} mmHg
   RR: 21 (15 - 22) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,686 mL
                                                                  1,393 mL
   PO:
             TF:
                                                                  1,151 mL
                                                                    622 mL
   IVF:
                                                                  1,435 mL
                                                                    721 mL
   Blood products:
   Total out:
                                                                  2,215 mL
                                                                  1,460 mL
   Urine:
                                                                  1,665 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    471 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 529 (451 - 610) mL
   PS : 18 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: distant breath sounds
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Purposeful, Tone: Normal
   Labs / Radiology
   7.9 g/dL
   143 K/uL
   165 mg/dL
   2.2 mg/dL
   26 mEq/L
   3.6 mEq/L
   52 mg/dL
   114 mEq/L
   145 mEq/L
   26.2 %
   9.7 K/uL
        [image002.jpg]
                            [**2160-12-31**]  02:34 AM
                            [**2160-12-31**]  02:36 AM
                            [**2160-12-31**]  07:23 AM
                            [**2160-12-31**]  08:02 AM
                            [**2160-12-31**]  01:26 PM
                            [**2160-12-31**]  02:15 PM
                            [**2161-1-1**]  03:44 AM
                            [**2161-1-1**]  04:09 AM
                            [**2161-1-2**]  06:35 AM
                            [**2161-1-3**]  05:42 AM
   WBC
   13.2
   8.8
   11.5
   9.7
   Hct
   28.1
   26.5
   26.7
   26.2
   Plt
   [**Telephone/Fax (3) 4481**]43
   Cr
   3.5
   3.3
   3.1
   2.6
   2.5
   2.2
   TropT
   0.02
   TCO2
   22
   22
   24
   25
   Glucose
   176
   157
   146
   166
   156
   165
   Other labs: PT / PTT / INR:17.8/31.0/1.6, CK / CKMB /
   Troponin-T:1077/9/0.02, ALT / AST:75/167, Alk Phos / T Bili:82/0.5,
   Amylase / Lipase:20/36, Differential-Neuts:89.0 %, Band:0.0 %,
   Lymph:3.0 %, Mono:4.0 %, Eos:3.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:471 IU/L, Ca++:7.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   Temp spike overnight. Skin cx growing GNR. We are continuing Vanco and
   GN coverage. Most of his skin looks better but his L foot and shin may
   be somewhat more edematous and erythematous than on R and he is more
   tender. Will continue to follow cx - discuss with ID if we need to
   double cover Pseudomonas.  Urine output up after we restarted
   levophed.  We are only monitoring non-invasive BP but improvement in
   output suggests renal perfusion is adequate.  Stable on PSV but still
   needs PEEP of 10.  Will move toward weaning after his temp is down and
   we have been able to diurese.
   ICU Care
   Nutrition:
   Nutren Renal ([**3-18**]) - [**2161-1-3**] 03:04 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2160-12-29**] 08:59 PM
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Prophylaxis:
   DVT: (fondaparinux)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2161-01-04 06:21:00 Physician Resident Progress Note
Chief Complaint: Denies pain this am.
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2161-1-3**] 02:30 PM
 ARTERIAL LINE - START [**2161-1-3**] 03:15 PM
   -A line replaced as [**Location (un) **] was inaccurate
   -fluconazole- keep for approx 7 day course per ID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2161-1-3**] 09:15 AM
   Vancomycin - [**2161-1-3**] 11:41 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-4**] 04:36 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-3**] 09:15 AM
   Fondaparinux - [**2161-1-3**] 03:30 PM
   Fentanyl - [**2161-1-4**] 01:30 AM
   Other medications:
   fondaparinux
   Epo
   vanco
   Tylenol
   fluconazole
   zosyn
   senna
   lactulose
   colace
   miconzole
   fentanyl
   versed
   senna
   miconazole
   ISS
   chlorhexidine
   protonix
   Norepi
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-4**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.6
C (99.7
   HR: 91 (80 - 93) bpm
   BP: 116/42(61) {89/38(53) - 127/53(75)} mmHg
   RR: 30 (14 - 30) insp/min
   SpO2: 94% (94-98)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,381 mL
                                                                    369 mL
   PO:
             TF:
                                                                    824 mL
   IVF:
                                                                  1,447 mL
                                                                    369 mL
   Blood products:
   Total out:
                                                                  3,120 mL
                                                                    480 mL
   Urine:
                                                                  2,180 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -739 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 416 (416 - 661) mL
   PS : 18 cmH2O
   RR (Spontaneous): 30
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 94%
   ABG: ///25/
   Ve: 11.5 L/min
   Physical Examination
   Gen: NAD, wakes to voice, responds to questions appropriately
   HEENT: NCAT MMM anicteric PERRL
   CV: RRR S1S2 no murmurs appreciated
   PULM: LUL wheeze anteriors, otherwise clear anteriorly
   ABD: obese, nondistended, tender to palp over Bl abd + bs
   EXT: warm well perfused, cellullitis worse on L. Grimace to palpation
   worse R than L
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   8.1 g/dL
   179 mg/dL
   1.9 mg/dL
   25 mEq/L
   3.9 mEq/L
   49 mg/dL
   114 mEq/L
   147 mEq/L
   26.6 %
   13.2 K/uL
        [image002.jpg]
   CK 988 to 600
   [**1-3**] cortisol 33.6
   UA neg
   vanco 16
   Leni: L leg with no dvt but limited study.
   blood 12/16,[**12-31**], [**1-1**] pending
   urine [**12-30**] urine neg, legionella neg
   swab (penile) 2+ polys 4+ GNR
                            [**2160-12-31**]  07:23 AM
                            [**2160-12-31**]  08:02 AM
                            [**2160-12-31**]  01:26 PM
                            [**2160-12-31**]  02:15 PM
                            [**2161-1-1**]  03:44 AM
                            [**2161-1-1**]  04:09 AM
                            [**2161-1-2**]  06:35 AM
                            [**2161-1-3**]  05:42 AM
                            [**2161-1-3**]  03:20 PM
                            [**2161-1-4**]  02:15 AM
   WBC
   13.2
   8.8
   11.5
   9.7
   13.2
   Hct
   28.1
   26.5
   26.7
   26.2
   26.6
   Plt
   [**Telephone/Fax (3) 4481**]43
   146
   Cr
   3.3
   3.1
   2.6
   2.5
   2.2
   2.0
   1.9
   TropT
   0.02
   TCO2
   22
   24
   25
   Glucose
   157
   146
   166
   156
   165
   150
   179
   Other labs: PT / PTT / INR:17.8/31.0/1.6, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:61/76, Alk Phos / T Bili:64/0.3,
   Amylase / Lipase:20/36, Differential-Neuts:74.0 %, Band:0.0 %,
   Lymph:9.0 %, Mono:4.0 %, Eos:7.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.0 g/dL, LDH:439 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Shock, multiple possible etiology: sepsis, potential sources include
   skin (multiple open areas with surrounding erythema and pus-like
   drainage). UA and U cult negative, CXR clear.  Blood cultures remain
   negative.  Echo negative for signs of right heart strain making PE less
   likely.  Gram stain from fluid collected from groin showed GNRs, Decub
   ulcers on back a mix of stage 2 and 3 with reduction in erythema.
   Currently appears to be getting better but continues to require
   pressors.
   - Aline again not functional even with femoral line kit.. Given
   pressure requirements will attempt  replace A-line to ensure monitoring
   - continue broad spectrum antibiotics including fungal coverage given
   diffuse fungal rash with vancomycin, zosyn, and fluconazole for now
   (can do 7 day course per ID)
   - goal cvp 10-12, map >65, continue to wean norepi as tolerated,
   moinitoring UO
   - f/u cultures
   -appropriate cortisol response
   -f/u ID recommendations
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   However high Cr elevation inconsistent with short time course. CVVHD
   for hyperkalemia ended [**Date range (1) 4444**]. Since then good urine output.
   - removed HD line
   - Auto-diuresing, check PM lytes , monitor UO
   - follow BUN, Cr
   .
   # Respiratory failure: Unclear precipitant. Patient has respiratory
   difficulty at baseline and is not compliant with sleep apnea
   prescriptions (no cpap). He has been more dyspneic for several days per
   her report and more somnolent, likely a sign of hypercarbia. Could be
   that hypercarbia due to increased narcotics (percocet) precipitated
   respiratory failure. Given history of hypertension and acute renal
   failure with decrease urine output, could also represent flash
   pulmonary edema (very difficult to tell on CXR). PE is on differential
   and patient had elevated D dimer at OSH, but not tachycardic and would
   not anticoagulate given guaiac positive NG output
   - has improved on CPAP
   -wean as tolerated after diuresis
   .
   #LLE/abd pain: unclear what the etiology of his abd pain is, also noted
   this AM loose BMs. ? c.diff. Will trend LFTs, send c.diff
   -c.diff pending, but pt has been on lactuslose
   - trend exam
   -trend LFTs, downtrending
   .
   # Guaiac + NG output: Noted at OSH. Hct ~ 30 since arrival at OSH. Will
   continue conservative treatment with PPI. Likely gastritis related to
   acute decompensation. Continued guaiac pos NG outpt
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   - will revisit issue with patient when alert and able to discuss
   options
   .
   # elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - trend cks, continue to downtrend
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   - wound care continues to visit and evaluate
   - miconazole powder to affected areas
   - IV fluconazole
   -decubs large areas of skin breakdown BL above buttock
   - added  debriding agents to left abdominal skin and decubitus ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**]. Unclear baseline and patient is
   Jehovah's witness so NO BLOOD PRODUCTS.
   -can resume iron supplement when taking Pos
   -check Fe, B12, folate
   -low retic and poor iron studies suggest anemia of chronic disease
   -on EPO
   #Thrombocytopenia
 decreasing platelets since admission, ? heparin rxn
   - f/u HIT Ab,
   - start fundaparinux, LMH levels 3 hours post admin and adjust dosage
   .
   # Type 2 DM: Adjust sliding scale insulin for now.
   -hold oral hypoglycemics for now
   .
   # Hypertension: on pressors
   .
   # GERD: continue ppi as above.
   .
   # FEN: OG placed, TFs ongoing. Na uptrending, increased free h20 bolus
   to 250ml q4h. IVF D5W at 75 ml/hr to correct free water deficit,
   continue diuresis
   .
   # PPx: fondaparinux, ppi [**Hospital1 **], bowel regiment
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: icu care for now, start screening for inpatient rehab/ weight
   loss program
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Arterial Line - [**2161-1-3**] 03:15 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   CRITICAL CARE STAFF ADDENDUM
   I saw and examined Mr. [**Known lastname 4377**] with the ICU team today; their note
   reflects my input.  I would add/emphasize that this 49 y/o man
   continues with respiratory failure and shock.  Arterial line was
   replaced yesterday using long catheter but clotted again (third time).
   Main new issue today is fever.
   His exam is similar to yesterday.  He continues to follow commands.
   When his wounds were examined today (difficult due to habitus), there
   was concern for increase in foul-smelling discharge.  His central line
   site looks excellent.
   Assessment and Plan
   49 y/o man with respiratory failure, shock, and acute renal failure.
   Fever today is recrudescent.
   Shock
          Most likely etiology is sepsis, with skin as the most likely
   source.
   o         Continue present ABX pending cultures.  Discuss empiric ESBL
   coverage with ID
   o         On fluconazole per ID given marked cutaneous yeast.
          The overall trend in Levophed since [**1-2**] is down (0.08
   0.03).
          Check CVP today since volume status is quite challenging to
   assess.  If arterial access can be maintained, consider SVV evaluation.
          Cortisol response adequately excludes adrenal insufficiency
          Echo showed normal biventricular function, making PE less
   likely as the cause of shock
   o         We are not able to further image.
   Fever
          Etiology unclear
          Leading sources: decub, VAP, line
   o         Possible VAP
          Although limited, will recheck CXR
          Check ET aspirate and mini-BAL
          Discuss ABX with ID.  If GNRs on G/S consider meropenem
   o         Decub
          Continue current care plan.
          Re-eval tomorrow.  Consider additional therapy pending
   course.
   o         Line
          Line site looks quite good at present.
          Since placement of line is non-trivial (and therefore higher
   risk), and there are no positive cultures, will not resite line today.
   If BCx (+) then resite.
   o         Will also check LFTs since he is at risk for acalculous
   cholecystitis
   Acute renal failure
   Continues to improve.  HD line out yesterday.
   Likely in post-ATN diuretic phase
   Respiratory failure
   Will need to discuss with family regarding possible attempt at
   extubation vs. tracheostomy.
   Anemia
   Jehovah
s witness
   Continue PPI
   On epo
   Impaired skin integrity
   Appreciate help with wound care
   Thrombocytopenia
   f/u HIT, though seems moderately unlikely
   Other issues as per ICU team note from today.
   He is critically ill: 45 min.
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) **], MD
   on:[**2161-1-4**] 06:12 PM ------

2161-01-05 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2161-1-4**] 09:45 AM
   #1 of 2, from central line
 URINE CULTURE - At [**2161-1-4**] 09:45 AM
 ARTERIAL LINE - STOP [**2161-1-4**] 05:00 PM
 SPUTUM CULTURE - At [**2161-1-4**] 05:30 PM
   mini BAL done by RT
 BLOOD CULTURED - At [**2161-1-4**] 09:00 PM
 FEVER - 104.1
F - [**2161-1-5**] 12:00 AM
   -ID recs continue fluconazole for 5 day course
   -given continued spiking, possible VAP, switched abx to vanco,
   meropenem and cipro. D/ced zosyn
   -Heparin dependent antibodies not pending in comupter, need to talk to
   blood bank in am to confirm sent.
   -Mini BAL sent, After BAL desat to high 80s, improved with recruitment
   manevers and increased PEEP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2161-1-4**] 08:40 AM
   Vancomycin - [**2161-1-4**] 11:02 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-4**] 09:43 PM
   Ciprofloxacin - [**2161-1-5**] 12:32 AM
   Meropenem - [**2161-1-5**] 01:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 75 mcg/hour
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2161-1-4**] 10:30 AM
   Fondaparinux - [**2161-1-4**] 04:23 PM
   Pantoprazole (Protonix) - [**2161-1-4**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-5**] 05:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.1
   Tcurrent: 38.9
C (102
   HR: 94 (92 - 102) bpm
   BP: 96/40(52) {96/31(44) - 119/53(67)} mmHg
   RR: 16 (10 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 15 (15 - 15)mmHg
   Total In:
                                                                  4,320 mL
                                                                  1,104 mL
   PO:
   TF:
                                                                  1,384 mL
                                                                    308 mL
   IVF:
                                                                  2,231 mL
                                                                    545 mL
   Blood products:
   Total out:
                                                                  2,945 mL
                                                                    400 mL
   Urine:
                                                                  2,940 mL
                                                                    400 mL
   NG:
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,375 mL
                                                                    704 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 547 (462 - 616) mL
   PS : 14 cmH2O
   RR (Spontaneous): 18
   PEEP: 20 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 10.1 L/min
   Physical Examination
   Gen: intubated, opens eyes to voice
   HEENT: NCAT MMM anicteric PERRL
   CV: RRR S1S2 no murmurs appreciated
   PULM: bilat BS, clear anteriorly
   ABD: obese, nondistended, tender to palp over Bl abd + bs
   EXT: warm well perfused, cellullitis worse on L. Grimace to palpation
   worse R than L
   SKIN: ulcerations over LLE in process of healing, min erythema, healing
   skin ulcerations under L pannus, min erythema with healing skin
   breakdown under remainder of pannus, various ulcerations over dorsal
   back surface (stage 2 and
 decub ulcerations)
   Labs / Radiology
   138 K/uL
   7.3 g/dL
   157 mg/dL
   1.8 mg/dL
   25 mEq/L
   4.0 mEq/L
   41 mg/dL
   115 mEq/L
   146 mEq/L
   24.4 %
   12.6 K/uL
        [image002.jpg]
                            [**2160-12-31**]  08:02 AM
                            [**2160-12-31**]  01:26 PM
                            [**2160-12-31**]  02:15 PM
                            [**2161-1-1**]  03:44 AM
                            [**2161-1-1**]  04:09 AM
                            [**2161-1-2**]  06:35 AM
                            [**2161-1-3**]  05:42 AM
                            [**2161-1-3**]  03:20 PM
                            [**2161-1-4**]  02:15 AM
                            [**2161-1-5**]  03:44 AM
   WBC
   8.8
   11.5
   9.7
   13.2
   12.6
   Hct
   26.5
   26.7
   26.2
   26.6
   24.4
   Plt
   [**Telephone/Fax (3) 4505**]46
   138
   Cr
   3.1
   2.6
   2.5
   2.2
   2.0
   1.9
   1.8
   TCO2
   22
   24
   25
   Glucose
   146
   166
   156
   165
   150
   179
   157
   Other labs: PT / PTT / INR:16.7/25.2/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:48/58, Alk Phos / T Bili:56/0.4,
   Amylase / Lipase:20/36, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.2 %, Mono:4.2 %, Eos:2.7 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:565 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
   This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Respiratory failure: Unclear precipitant. Patient has respiratory
   difficulty at baseline and is not compliant with sleep apnea
   prescriptions (no cpap). He has been more dyspneic for several days per
   her report and more somnolent, likely a sign of hypercarbia. Could be
   that hypercarbia due to increased narcotics (percocet) precipitated
   respiratory failure. Given history of hypertension and acute renal
   failure with decrease urine output, could also represent flash
   pulmonary edema (very difficult to tell on CXR).  Pt remains on vent,
   will wean down PEEP as tol
   - has improved on CPAP
   -wean as tolerated
   .
   # Hypotension/Fever: sepsis ? unresolved as pt has several sources of
   infection and continues to require pressors, but w/u has not revealed
   obvious source, potential sources include skin (multiple open areas
   with surrounding erythema and pus-like drainage). UA and U cult
   negative, CXR clear.  Blood cultures remain negative.  Echo negative
   for signs of right heart strain making PE less likely.  Gram stain from
   fluid collected from groin showed GNRs, Decub ulcers on back a mix of
   stage 2 and 3 with reduction in erythema. Currently appears to be
   getting better but continues to require pressors.
   - 3 attempts for A line produced clotting in each case
 will monitor
   SBP and UOP for signs of adequate end-organ perfusion
   - continue broad spectrum antibiotics including fungal coverage given
   diffuse fungal rash with vancomycin, zosyn, and fluconazole for now
   (can do 7 day course per ID)
   - goal cvp 10-12, SBP > 120, continue to wean norepi as tolerated,
   monitoring UO
   - f/u cultures
   -appropriate cortisol response
   -ID continues to follow
 f/u on recommendations
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   However high Cr elevation inconsistent with short time course. CVVHD
   for hyperkalemia ended [**Date range (1) 4444**]. Since then good urine output. Cr
   continues to trend down
   - removed HD line
   - Diuresing, check AM lytes, monitor UO
   - follow BUN, Cr
   .
   #LLE/abd pain/wounds: unclear what the etiology of his abd pain is,
   also noted this AM loose BMs. ? c.diff. Will trend LFTs, send c.diff
   -c.diff pending, but pt has been on lactuslose
   - trend exam
   -trend LFTs, downtrending
   .
   # Guaiac + NG output: Noted at OSH. Hct ~ 30 since arrival at OSH. Will
   continue conservative treatment with PPI. Likely gastritis related to
   acute decompensation. Continued guaiac pos NG outpt
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   - will revisit blood products issue with patient when alert and able to
   discuss options
   - crit stable for last few days
 will readdress prn
   .
   # Elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - cks continue to downtrend
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   - difficult to assess extremities fully, w/u thus far have been
   negative though possible for pt to have clots
   - will readdress based on clinical picture
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   - wound care continues to visit and evaluate
   - miconazole cream/ powder to affected areas
   - IV fluconazole for 5 more days per ID
   -decubs large areas of skin breakdown BL above buttock
   - added  debriding agents to left abdominal skin and decubitus ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**]. Unclear baseline and patient is
   Jehovah's witness so NO BLOOD PRODUCTS.
   -can resume iron supplement when taking POs, folate, B12
   -low retic and poor iron studies suggest anemia of chronic disease
   -on EPO
   -minimize blood draws
   .
   #Thrombocytopenia
 decreasing platelets since admission, ? heparin rxn
   - f/u HIT Ab,
   - start fundaparinux, LMH levels 3 hours post admin and adjust dosage
   .
   # Type 2 DM: Adjust sliding scale insulin for now.
   -hold oral hypoglycemics for now
   .
   # Hypertension: on pressors
   .
   # GERD: continue ppi as above.
   .
   # FEN: OG placed, TFs ongoing. Na uptrending, increased free h20 bolus
   to 250ml q4h. IVF D5W at 75 ml/hr to correct free water deficit,
   continue diuresis
   .
   # PPx: fondaparinux, ppi [**Hospital1 **], bowel regiment
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU, active screening in process
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Nutren Renal ([**3-18**]) - [**2161-1-4**] 11:10 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-06 05:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 104.4
F - [**2161-1-5**] 02:00 PM
   - monitoring systolic and UOP for perfusion
   - decreased PEEP from 16 to 10, PSV decreased from 18-14
   - UOP - decreased in late evening, bolused X 3 with 3 L
   - started back on low dose levophed
 making 30-40cc urine
   - HIT ab's negative
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-4**] 09:43 PM
   Vancomycin - [**2161-1-5**] 08:00 AM
   Fluconazole - [**2161-1-5**] 10:00 AM
   Ciprofloxacin - [**2161-1-6**] 12:13 AM
   Meropenem - [**2161-1-6**] 12:13 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-5**] 08:00 AM
   Fondaparinux - [**2161-1-5**] 04:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-6**] 05:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.2
C (104.4
   Tcurrent: 36.6
C (97.8
   HR: 83 (83 - 109) bpm
   BP: 92/47(56) {69/26(38) - 108/72(76)} mmHg
   RR: 22 (14 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 16 (11 - 30)mmHg
   Total In:
                                                                  6,894 mL
                                                                    794 mL
   PO:
   TF:
                                                                  1,321 mL
                                                                    305 mL
   IVF:
                                                                  4,253 mL
                                                                    488 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    160 mL
   Urine:
                                                                  1,435 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,459 mL
                                                                    634 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 486 (426 - 796) mL
   PS : 14 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ////
   Ve: 10.4 L/min
   Physical Examination
   Gen: intubated, opens eyes to voice, turns head, following some
   commands
   HEENT: NCAT MMM anicteric PERRL
   CV: RRR S1S2 no murmurs appreciated. Distant heart sounds
   PULM: bilat BS, clear anteriorly
   ABD: obese, nondistended, tender to palp over Bl abd + bs
   EXT: warm well perfused, cellullitis worse on L. Grimace to palpation
   worse R than L
   SKIN: ulcerations over LLE in process of healing, min erythema, healing
   skin ulcerations under L pannus, min erythema with healing skin
   breakdown under remainder of pannus, various ulcerations over dorsal
   back surface (stage 2 and
 decub ulcerations)
   Labs / Radiology
   177 K/uL
   7.7 g/dL
   109 mg/dL
   2.1 mg/dL
   25 mEq/L
   4.0 mEq/L
   46 mg/dL
   114 mEq/L
   146 mEq/L
   25.5 %
   17.1 K/uL
        [image002.jpg]
                            [**2160-12-31**]  01:26 PM
                            [**2160-12-31**]  02:15 PM
                            [**2161-1-1**]  03:44 AM
                            [**2161-1-1**]  04:09 AM
                            [**2161-1-2**]  06:35 AM
                            [**2161-1-3**]  05:42 AM
                            [**2161-1-3**]  03:20 PM
                            [**2161-1-4**]  02:15 AM
                            [**2161-1-5**]  03:44 AM
                            [**2161-1-6**]  03:52 AM
   WBC
   8.8
   11.5
   9.7
   13.2
   12.6
   17.1
   Hct
   26.5
   26.7
   26.2
   26.6
   24.4
   25.5
   Plt
   [**Telephone/Fax (3) 4505**]46
   138
   177
   Cr
   3.1
   2.6
   2.5
   2.2
   2.0
   1.9
   1.8
   2.1
   TCO2
   24
   25
   Glucose
   146
   166
   156
   165
   150
   179
   157
   109
   Other labs: PT / PTT / INR:16.6/25.3/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:48/58, Alk Phos / T Bili:56/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:77.6 %, Band:0.0 %,
   Lymph:15.2 %, Mono:4.2 %, Eos:2.7 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:565 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Micro: Blood cx, urine cx no growth, mini BAL no organisms
   Assessment and Plan
   This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Respiratory failure: Unclear precipitant. Patient has respiratory
   difficulty at baseline and is not compliant with sleep apnea
   prescriptions (no cpap). He has been more dyspneic for several days per
   her report and more somnolent, likely a sign of hypercarbia. Could be
   that hypercarbia due to increased narcotics (percocet) precipitated
   respiratory failure. Given history of hypertension and acute renal
   failure with decrease urine output, could also represent flash
   pulmonary edema (very difficult to tell on CXR).  Pt remains on vent,
   will wean down PSV and PEEP as tol, decrease PSV by 2 then PEEP by 2 as
   tolerated
   -wean as tolerated
   - consider trach if unable to wean and extubate
   .
   # Hypotension/Fever: sepsis ? unresolved as pt has several sources of
   infection and continues to require pressors, but w/u has not revealed
   obvious source, potential sources include skin (multiple open areas
   with surrounding erythema and pus-like drainage). UA and U cult
   negative, CXR clear.  Blood cultures remain negative.  Echo negative
   for signs of right heart strain making PE less likely.  Gram stain from
   fluid collected from groin showed GNRs, Decub ulcers on back a mix of
   stage 2 and 3 with reduction in erythema. Currently appears to be
   getting better but continues to require pressors. [**Month (only) 51**] also be drug
   fever since now spiking high fevers and is on broad coverage. [**Last Name (un) **] stim
   normal
   - 3 attempts for A line produced clotting in each case, but a line was
   relatively consistent with cuff pressures
 will monitor SBP and UOP for signs of adequate end-organ perfusion
   - continue broad spectrum antibiotics for now with [**Last Name (un) 614**], cipro, vanco
   - d/c fluc as has completed course and possible cause of fevers, want
   to minimize meds
   - goal cvp 10-12, SBP > 120, continue to wean norepi as tolerated,
   monitoring UO
   - f/u cultures
   -  ID continues to follow
 f/u on recommendations
   - check diff with CBC
   - repeat c diff
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   However high Cr elevation inconsistent with short time course. CVVHD
   for hyperkalemia ended [**Date range (1) 4444**]. Since then good urine output. Cr
   continued to trend down then was up today, likely related to
   hypotension yesterday
   - monitor UO, maintain >30cc/hour, maintain MAP>65
   - follow BUN, Cr
   - repeat pm labs
   .
   #LLE/abd pain/wounds: unclear what the etiology of his abd pain is,
   also noted this AM loose BMs. ? c.diff. Will trend LFTs, send c.diff
   -c.diff pending, but pt has been on lactuslose, repeat c diff
   - trend exam
   -trend LFTs, downtrending
   .
   # Guaiac + NG output: Noted at OSH. Hct stable last 2 days. Will
   continue conservative treatment with PPI. Likely gastritis related to
   acute decompensation.
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   - will revisit blood products issue with patient when alert and able to
   discuss options
   - crit stable for last few days
 will readdress prn, continue epo
   .
   # Elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - cks continue to downtrend
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   - difficult to assess extremities fully, w/u thus far have been
   negative though possible for pt to have clots
   - will readdress based on clinical picture
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   - wound care continues to visit and evaluate
   - miconazole cream/ powder to affected areas
   - IV fluconazole for 5 more days per ID
   -decubs large areas of skin breakdown BL above buttock
   - added  debriding agents to left abdominal skin and decubitus ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**]. Unclear baseline and patient is
   Jehovah's witness so NO BLOOD PRODUCTS.
   -can resume iron supplement when taking POs, folate, B12
   -low retic and poor iron studies suggest anemia of chronic disease
   -on EPO
   -minimize blood draws
   .
   #Thrombocytopenia
 decreasing platelets since admission,
   - HIT Ab neg,
   .
   # Type 2 DM: has been on insulin drip. Will determine insulin
   requirements last 24 hours, change to fixed dose and sliding scale
   -hold oral hypoglycemics for now
   - change insulin drip to fixed dose and sliding scale
   .
   # Hypertension: on pressors
   .
   # GERD: continue ppi as above.
   .
   # FEN: OG placed, TFs ongoing. Na stable, continue free h20 bolus to
   250ml q4h. IVF D5W at 75 ml/hr to correct free water deficit
   .
   # PPx: will change fondaparinux to hep sc since HIT ab neg, ? source of
   fever, ppi [**Hospital1 **], bowel regiment
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU, active screening in process
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Nutren Renal ([**3-18**]) - [**2161-1-6**] 12:38 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-07 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -PS [**12-22**] in afternoon tolerated for some time but required more PEEP
   o/v
   -d/c insulin drip - gave 50U lantus in pm, monitoring requirements
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-4**] 09:43 PM
   Vancomycin - [**2161-1-6**] 08:53 AM
   Fluconazole - [**2161-1-6**] 09:43 AM
   Meropenem - [**2161-1-6**] 11:22 PM
   Ciprofloxacin - [**2161-1-7**] 12:11 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-6**] 08:27 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-7**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-7**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 103 (82 - 110) bpm
   BP: 100/40(54) {95/36(49) - 121/54(69)} mmHg
   RR: 23 (18 - 35) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  3,756 mL
                                                                  1,062 mL
   PO:
             TF:
                                                                  1,339 mL
                                                                    354 mL
   IVF:
                                                                  2,108 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  1,450 mL
                                                                    520 mL
   Urine:
                                                                  1,450 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,306 mL
                                                                    542 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 508 (485 - 532) mL
   PS : 14 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 23 cmH2O
   SpO2: 97%
   ABG: 7.25/57/80.[**Numeric Identifier 176**]/25/-3
   Ve: 13.8 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: intubated, opens eyes to voice, turns head, following commands,
   nodded yes to knowing where he was, squeezed hand on request. Nodded
 to CP, Abd Pain, leg or arm pain,or HA. Had some pain but could
   not localize. Moved all limbs on request.
   HEENT: NCAT MMM anicteric PERRL
   CV: RRR S1S2 no murmurs appreciated. Distant heart sounds
   PULM: bilat BS, clear anteriorly, mild upper-airway rhonchi
   ABD: obese, nondistended, nontender
   EXT: warm well perfused, mild erythema, worse on L. 1+ pitting edema
   bil to knees.
   SKIN: ulcerations over LLE in process of healing, min erythema, healing
   skin ulcerations under L pannus, min erythema with healing skin
   breakdown under remainder of pannus, various ulcerations over dorsal
   back surface (stage 2 and
 decub ulcerations), wounds appear to be
   healing well.
   Labs / Radiology
   211 K/uL
   8.0 g/dL
   116 mg/dL
   1.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   47 mg/dL
   111 mEq/L
   143 mEq/L
   26.5 %
   13.3 K/uL
        [image002.jpg]
                            [**2161-1-1**]  04:09 AM
                            [**2161-1-2**]  06:35 AM
                            [**2161-1-3**]  05:42 AM
                            [**2161-1-3**]  03:20 PM
                            [**2161-1-4**]  02:15 AM
                            [**2161-1-5**]  03:44 AM
                            [**2161-1-6**]  03:52 AM
                            [**2161-1-6**]  05:00 PM
                            [**2161-1-6**]  07:38 PM
                            [**2161-1-7**]  03:15 AM
   WBC
   11.5
   9.7
   13.2
   12.6
   17.1
   13.3
   Hct
   26.7
   26.2
   26.6
   24.4
   25.5
   26.5
   Plt
   163
   143
   146
   138
   177
   211
   Cr
   2.5
   2.2
   2.0
   1.9
   1.8
   2.1
   1.9
   1.7
   TCO2
   25
   26
   Glucose
   156
   165
   150
   179
   157
   109
   96
   116
   Other labs: PT / PTT / INR:17.4/30.8/1.6, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:48/58, Alk Phos / T Bili:56/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:2.0 %, Eos:3.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.6 mmol/L, Albumin:2.1 g/dL, LDH:565 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   LAST ABG [**2160-8-6**] [**2082**]: 7.25 / 57 / 85 /26
   IMAGING: last CXR [**2161-1-4**]
   MICRO: C-diff [**2161-1-3**] NEG, URINE [**2161-1-4**] NEG, MiniBADL [**2161-1-4**] PMNs,
   no organisms, NGTD, Blood [**2161-1-4**] pend.
   Assessment and Plan
   AP: This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Respiratory failure: Unclear precipitant. Patient has respiratory
   difficulty at baseline and is not compliant with sleep apnea
   prescriptions (no cpap). He has been more dyspneic for several days per
   her report and more somnolent, likely a sign of hypercarbia. Could be
   that hypercarbia due to increased narcotics (percocet) precipitated
   respiratory failure. Given history of hypertension and acute renal
   failure with decrease urine output, could also represent flash
   pulmonary edema (very difficult to tell on CXR).  Pt remains on vent,
   will wean down PSV and PEEP as tolerated. Pt positive 14 L for LOS, and
   while still requiring pressors, will cautiously diurese with lasix
   today.
   - wean as tolerated
   - consider trach if unable to wean and extubate
   - Lasix 20mg IV x 1 this am
   .
   # Hypotension/Fever: sepsis ? unresolved as pt has several sources of
   infection and continues to require pressors, but w/u has not revealed
   obvious source, potential sources include skin (multiple open areas
   with surrounding erythema and pus-like drainage). UA and U cult
   negative, CXR clear.  Blood cultures remain negative.  Echo negative
   for signs of right heart strain making PE less likely.  Gram stain from
   fluid collected from groin showed GNRs, Decub ulcers on back a mix of
   stage 2 and 3 with reduction in erythema. Currently appears to be
   getting better but continues to require pressors. [**Month (only) 51**] also be drug
   fever since now spiking high fevers and is on broad coverage. [**Last Name (un) **] stim
   normal. Fluconazole d/c
d, on [**2161-1-6**], last day of 7day course. Pt
   afebrile yesterday but slowly increasing temps overnight.  Plan to d/c
   vanco today as pt with no clear source and may have drug fever.
   - 3 attempts for A line produced clotting in each case, but a line was
   relatively consistent with cuff pressures
 will monitor SBP and UOP for signs of adequate end-organ perfusion
   - continue broad spectrum antibiotics for now with [**Last Name (un) 614**], cipro
   - goal cvp 10-12, SBP > 120, continue to wean norepi as tolerated,
   monitoring UO
   - f/u cultures
   -  ID continues to follow
 f/u on recommendations
   - check diff with CBC
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   However high Cr elevation inconsistent with short time course. CVVHD
   for hyperkalemia ended [**Date range (1) 4444**]. Since then good urine output. Cr
   continued to trend down today 1.7 from 1.9 yesterday.
   - monitor UOP, maintain >30cc/hour, maintain MAP>65
   - follow BUN, Cr
   - repeat pm labs
   .
   #LLE/abd pain/wounds: unclear what the etiology of his abd pain was.
   This am, pt denied abd pain and appeared nontender. Plan had been to
   repeat C-diff, but last sent was [**1-3**]
   -c.diff neg, but pt has been on lactuslose, repeat c diff
   - trend exam
   .
   # Guaiac + NG output: Noted at OSH. Hct stable last 6 days at approx
   26. Will continue conservative treatment with PPI. Likely gastritis
   related to acute decompensation.
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   - will revisit blood products issue with patient when alert and able to
   discuss options
   - continue epo
   .
   # Elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - Repeat CKs tomorrow AM labs
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   - difficult to assess extremities fully, w/u thus far have been
   negative though possible for pt to have clots
   - will readdress based on clinical picture
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   Completed course of IV fluconazole. Appears to be healing well.
   - wound care continues to visit and evaluate
   - miconazole cream/ powder to affected areas
   - decubs large areas of skin breakdown BL above buttock
   - added  debriding agents to left abdominal skin and decubitus ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**], stable at 26 x 6 days. Unclear
   baseline and patient is Jehovah's witness so NO BLOOD PRODUCTS.
   -can resume iron supplement when taking POs, folate, B12
   -low retic and poor iron studies suggest anemia of chronic disease
   -on EPO
   -minimize blood draws
   .
   #Thrombocytopenia
 Platelets stable , increasing last 3 days now 211
   - HIT Ab neg,
   .
   # Type 2 DM: Insluin drip d/c
d. Received lantus 50 last night, sugars
   in 150s-160s, start sliding scale today
   - hold oral hypoglycemics for now
   - start sliding scale
   .
   # Hypertension: on pressors, will be weaned as tolerated.
   .
   # GERD: continue ppi as above.
   .
   # FEN: OG placed, TFs ongoing. Na stable, continue free h20 bolus to
   250ml q4h. IVF D5W at 75 ml/hr to correct free water deficit . Decrease
   free H20 flushes.
   .
   # PPx: will change fondaparinux to hep sc since HIT ab neg, ? source of
   fever, ppi [**Hospital1 **], bowel regiment
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU, active screening in process
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-18**]) - [**2161-1-6**] 09:57 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-08 04:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2161-1-7**] 12:00 PM
 BLOOD CULTURED - At [**2161-1-7**] 02:30 PM
 FEVER - 102.5
F - [**2161-1-7**] 08:00 PM
   Pressure support changed to 12 then tachycardic, increased back up to
   14, still tachycardic so decreased back to 12
   ID recs: Continue [**Last Name (un) 614**]/cipro. agree with d/c vanc
   Did not respond much to Lasix 20
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2161-1-6**] 09:43 AM
   Vancomycin - [**2161-1-7**] 08:00 AM
   Meropenem - [**2161-1-8**] 12:00 AM
   Ciprofloxacin - [**2161-1-8**] 12:40 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-7**] 08:00 AM
   Furosemide (Lasix) - [**2161-1-7**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-8**] 03:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-8**] 04:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.2
C (102.5
   Tcurrent: 37.9
C (100.3
   HR: 115 (99 - 119) bpm
   BP: 123/48(64) {87/35(48) - 127/54(69)} mmHg
   RR: 27 (22 - 35) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 8 (7 - 302)mmHg
   Total In:
                                                                  4,530 mL
                                                                  1,044 mL
   PO:
                                                                    300 mL
                                                                     50 mL
   TF:
                                                                  1,323 mL
                                                                    263 mL
   IVF:
                                                                  1,907 mL
                                                                    481 mL
   Blood products:
   Total out:
                                                                  2,285 mL
                                                                    520 mL
   Urine:
                                                                  2,285 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,245 mL
                                                                    524 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 508 (339 - 565) mL
   PS : 14 cmH2O
   RR (Spontaneous): 26
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 68
   RSBI Deferred: RR >35
   PIP: 23 cmH2O
   SpO2: 95%
   ABG: 7.27/56/85.[**Numeric Identifier 126**]/26/-1
   Ve: 11.5 L/min
   PaO2 / FiO2: 213
   Physical Examination
   Gen: intubated, opens eyes to voice, turns head, following commands,
   nodded yes to knowing where he was, squeezed hand on request. Nodded
 to CP, Abd Pain, leg or arm pain,or HA. Had some pain but could
   not localize. Moved all limbs on request.
   HEENT: NCAT MMM anicteric PERRL
   CV: RRR S1S2 no murmurs appreciated. Distant heart sounds
   PULM: bilat BS, clear anteriorly, mild upper-airway rhonchi
   ABD: obese, nondistended, nontender
   EXT: warm well perfused, mild erythema, worse on L. 1+ pitting edema
   bil to knees.
   SKIN: ulcerations over LLE in process of healing, min erythema, healing
   skin ulcerations under L pannus, min erythema with healing skin
   breakdown under remainder of pannus, various ulcerations over dorsal
   back surface (stage 2 and
 decub ulcerations), wounds appear to be
   healing well.
   Labs / Radiology
   253 K/uL
   7.1 g/dL
   120 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   44 mg/dL
   113 mEq/L
   144 mEq/L
   23.3 %
   10.5 K/uL
        [image002.jpg]
                            [**2161-1-3**]  03:20 PM
                            [**2161-1-4**]  02:15 AM
                            [**2161-1-5**]  03:44 AM
                            [**2161-1-6**]  03:52 AM
                            [**2161-1-6**]  05:00 PM
                            [**2161-1-6**]  07:38 PM
                            [**2161-1-7**]  03:15 AM
                            [**2161-1-7**]  08:23 AM
                            [**2161-1-7**]  04:17 PM
                            [**2161-1-8**]  03:26 AM
   WBC
   13.2
   12.6
   17.1
   13.3
   10.5
   Hct
   26.6
   24.4
   25.5
   26.5
   23.3
   Plt
   146
   138
   177
   211
   253
   Cr
   2.0
   1.9
   1.8
   2.1
   1.9
   1.7
   1.6
   1.5
   TCO2
   26
   27
   Glucose
   150
   179
   157
   109
   96
   116
   145
   120
   Other labs: PT / PTT / INR:16.8/28.1/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:48/58, Alk Phos / T Bili:56/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:2.0 %, Eos:3.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:565 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   AP: This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Respiratory failure: Unclear precipitant. Patient has respiratory
   difficulty at baseline and is not compliant with sleep apnea
   prescriptions (no cpap). He has been more dyspneic for several days per
   her report and more somnolent, likely a sign of hypercarbia. Could be
   that hypercarbia due to increased narcotics (percocet) precipitated
   respiratory failure. Given history of hypertension and acute renal
   failure with decrease urine output, could also represent flash
   pulmonary edema (very difficult to tell on CXR).  Pt remains on vent,
   will wean down PSV and PEEP as tolerated. Pt positive 14 L for LOS, and
   while still requiring pressors, will cautiously diurese with lasix
   today.
   - wean as tolerated
   - consider trach if unable to wean and extubate
   - Lasix 20mg IV x 1 this am
   .
   # Hypotension/Fever: sepsis ? unresolved as pt has several sources of
   infection and continues to require pressors, but w/u has not revealed
   obvious source, potential sources include skin (multiple open areas
   with surrounding erythema and pus-like drainage). UA and U cult
   negative, CXR clear.  Blood cultures remain negative.  Echo negative
   for signs of right heart strain making PE less likely.  Gram stain from
   fluid collected from groin showed GNRs, Decub ulcers on back a mix of
   stage 2 and 3 with reduction in erythema. Currently appears to be
   getting better but continues to require pressors. [**Month (only) 51**] also be drug
   fever since now spiking high fevers and is on broad coverage. [**Last Name (un) **] stim
   normal. Fluconazole d/c
d, on [**2161-1-6**], last day of 7day course. Pt
   afebrile yesterday but slowly increasing temps overnight.  Plan to d/c
   vanco today as pt with no clear source and may have drug fever.
   - 3 attempts for A line produced clotting in each case, but a line was
   relatively consistent with cuff pressures
 will monitor SBP and UOP for signs of adequate end-organ perfusion
   - continue broad spectrum antibiotics for now with [**Last Name (un) 614**], cipro
   - goal cvp 10-12, SBP > 120, continue to wean norepi as tolerated,
   monitoring UO
   - f/u cultures
   -  ID continues to follow
 f/u on recommendations
   - check diff with CBC
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   However high Cr elevation inconsistent with short time course. CVVHD
   for hyperkalemia ended [**Date range (1) 4444**]. Since then good urine output. Cr
   continued to trend down today 1.7 from 1.9 yesterday.
   - monitor UOP, maintain >30cc/hour, maintain MAP>65
   - follow BUN, Cr
   - repeat pm labs
   .
   #LLE/abd pain/wounds: unclear what the etiology of his abd pain was.
   This am, pt denied abd pain and appeared nontender. Plan had been to
   repeat C-diff, but last sent was [**1-3**]
   -c.diff neg, but pt has been on lactuslose, repeat c diff
   - trend exam
   .
   # Guaiac + NG output: Noted at OSH. Hct stable last 6 days at approx
   26. Will continue conservative treatment with PPI. Likely gastritis
   related to acute decompensation.
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   - will revisit blood products issue with patient when alert and able to
   discuss options
   - continue epo
   .
   # Elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - Repeat CKs tomorrow AM labs
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   - difficult to assess extremities fully, w/u thus far have been
   negative though possible for pt to have clots
   - will readdress based on clinical picture
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Cover with broad spectrum abx for now.
   Completed course of IV fluconazole. Appears to be healing well.
   - wound care continues to visit and evaluate
   - miconazole cream/ powder to affected areas
   - decubs large areas of skin breakdown BL above buttock
   - added  debriding agents to left abdominal skin and decubitus ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**], stable at 26 x 6 days. Unclear
   baseline and patient is Jehovah's witness so NO BLOOD PRODUCTS.
   -can resume iron supplement when taking POs, folate, B12
   -low retic and poor iron studies suggest anemia of chronic disease
   -on EPO
   -minimize blood draws
   .
   #Thrombocytopenia
 Platelets stable , increasing last 3 days now 211
   - HIT Ab neg,
   .
   # Type 2 DM: Insluin drip d/c
d. Received lantus 50 last night, sugars
   in 150s-160s, start sliding scale today
   - hold oral hypoglycemics for now
   - start sliding scale
   .
   # Hypertension: on pressors, will be weaned as tolerated.
   .
   # GERD: continue ppi as above.
   .
   # FEN: OG placed, TFs ongoing. Na stable, continue free h20 bolus to
   250ml q4h. IVF D5W at 75 ml/hr to correct free water deficit . Decrease
   free H20 flushes.
   .
   # PPx: will change fondaparinux to hep sc since HIT ab neg, ? source of
   fever, ppi [**Hospital1 **], bowel regiment
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU, active screening in process
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-18**]) - [**2161-1-7**] 08:48 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-09 05:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.3
F - [**2161-1-8**] 08:00 PM
   Discussed blood products with family, got signed release from wife.
   [**Name (NI) **] was d/c'd per ID recs.
   Febrile, tachypnic and tachycardic
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Fluconazole - [**2161-1-6**] 09:43 AM
   Vancomycin - [**2161-1-7**] 08:00 AM
   Ciprofloxacin - [**2161-1-8**] 12:40 AM
   Meropenem - [**2161-1-9**] 12:10 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1.5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-8**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2161-1-8**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-9**] 05:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.1
C (102.3
   Tcurrent: 37.8
C (100
   HR: 104 (96 - 120) bpm
   BP: 96/37(49) {87/28(44) - 143/57(73)} mmHg
   RR: 27 (20 - 40) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
    CVP: 8 (1 - 245)mmHg
   Total In:
                                                                  3,134 mL
                                                                    713 mL
   PO:
                                                                    150 mL
   TF:
                                                                  1,321 mL
                                                                    317 mL
   IVF:
                                                                  1,013 mL
                                                                    195 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    290 mL
   Urine:
                                                                  1,725 mL
                                                                    280 mL
   NG:
                                                                     10 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    899 mL
                                                                    423 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 596 (537 - 596) mL
   PS : 14 cmH2O
   RR (Spontaneous): 27
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: ////
   Ve: 12.2 L/min
   Physical Examination
   Gen: intubated, opens eyes to voice, turns head, following commands,
   nodded yes to knowing where he was, squeezed hand on request.
   HEENT: NCAT MMM anicteric PERRL, L IJ in place, C/D/I, erythema
   CV: RRR S1S2 no murmurs appreciated.
   PULM: bilat BS, clear anteriorly, mild upper-airway rhonchi
   ABD: obese, nondistended, nontender
   EXT: warm well perfused, mild erythema, worse on L. 1+ pitting edema
   bil to knees.1+ pitting edema RUE
   SKIN: ulcerations over LLE in process of healing, min erythema, healing
   skin ulcerations under L pannus, min erythema with healing skin
   breakdown under remainder of pannus, various ulcerations over dorsal
   back surface (stage 2 and
 decub ulcerations), wounds appear to be
   healing well.
   Labs / Radiology
   253 K/uL
   7.1 g/dL
   120 mg/dL
   1.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   44 mg/dL
   113 mEq/L
   144 mEq/L
   22.0 %
   10.5 K/uL
        [image002.jpg]
                            [**2161-1-4**]  02:15 AM
                            [**2161-1-5**]  03:44 AM
                            [**2161-1-6**]  03:52 AM
                            [**2161-1-6**]  05:00 PM
                            [**2161-1-6**]  07:38 PM
                            [**2161-1-7**]  03:15 AM
                            [**2161-1-7**]  08:23 AM
                            [**2161-1-7**]  04:17 PM
                            [**2161-1-8**]  03:26 AM
                            [**2161-1-8**]  06:29 AM
   WBC
   13.2
   12.6
   17.1
   13.3
   10.5
   Hct
   26.6
   24.4
   25.5
   26.5
   23.3
   22.0
   Plt
   146
   138
   177
   211
   253
   Cr
   1.9
   1.8
   2.1
   1.9
   1.7
   1.6
   1.5
   TCO2
   26
   27
   Glucose
   179
   157
   109
   96
   116
   145
   120
   Other labs: PT / PTT / INR:16.8/28.1/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:48/58, Alk Phos / T Bili:56/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:2.0 %, Eos:3.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:565 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   AP: This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Respiratory failure: Unclear precipitant. Patient has respiratory
   difficulty at baseline and is not compliant with sleep apnea
   prescriptions (no cpap). He has been more dyspneic for several days per
   her report and more somnolent, likely a sign of hypercarbia. Could be
   that hypercarbia due to increased narcotics (percocet) precipitated
   respiratory failure. Given history of hypertension and acute renal
   failure with decrease urine output, could also represent flash
   pulmonary edema (very difficult to tell on CXR).  Pt remains on vent,
   will wean down PSV and PEEP as tolerated. Pt positive 14 L for LOS,. Pt
   off pressors this am. As renal function is improving and patient making
   good urine, will allow to autodiurese today.
   - wean from vent as tolerated
   - consider trach if unable to wean and extubate
   .
   # Hypotension/Fever: sepsis ? unresolved as pt has several possible
   sources of infection and continues to require pressors, but w/u has not
   revealed clear source, potential sources include skin (multiple open
   areas with surrounding erythema and pus-like drainage). UA and U cult
   negative, CXR clear.  Blood cultures remain negative.  Echo negative
   for signs of right heart strain making PE less likely.  Gram stain from
   fluid collected from groin showed GNRs, Decub ulcers on back a mix of
   stage 2 and 3 with reduction in erythema. Currently appears to be
   getting better, presors stopped this am. [**Month (only) 51**] also be drug fever since
   had no clear source and broad spectrum coverage. [**Last Name (un) **] stim normal.
   Fluconazole d/c
d, on [**2161-1-6**], last day of 7day course. Pt febrile for
   last 24 hours, Bcx and Ucx sent. Vanco d/c
d yesterday [**2161-1-7**] as pt
   with no clear source, but has stayed. Given unclear source will also
   likely d/c cipr and [**Last Name (un) 614**] per ID recs.
   - d/c [**Last Name (un) **], continue [**Last Name (LF) **], [**First Name3 (LF) **] likely d/c tomorrow.
   - f/u ID recommendations and cx data
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. ?
   relationship to elevated CK (only 5000 at OSH and ~ 9000 here); likely
   not precipitant but related to tissue hypoperfusion when hypotensive.
   However high Cr elevation inconsistent with short time course. CVVHD
   for hyperkalemia ended [**Date range (1) 4444**]. Since then good urine output. Cr
   has continued to trend down today 1.5 from 1.6, 1.7,  yesterday.
   - monitor UOP, maintain >30cc/hour, maintain MAP>65
   - follow BUN, Cr
   - repeat pm labs
   .
   # Guaiac + NG output: Noted at OSH. Hct stable last 6 days at approx
   26. Will continue conservative treatment with PPI. Likely gastritis
   related to acute decompensation. HCT today, 23.3 down from 26.5.
   - [**Hospital1 **] ppi IV
   - trend hct, though patient is Jehovah's Witness and would not want
   blood products per wife
   - will revisit blood products issue with patient when alert and able to
   discuss options
   - continue epo
   - try to limit blood draws
   - repeat HCT this PM
   .
   # Elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   - difficult to assess extremities fully, w/u thus far have been
   negative though possible for pt to have clots
   - will readdress based on clinical picture
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with ?
   superinfectin of open areas. Covered with broad spectrum abx, now on
   [**Hospital1 **]/[**Last Name (un) **]. Completed course of IV fluconazole. Appears to be healing
   well.
   - wound care continues to visit and evaluate
   - miconazole cream/ powder to affected areas
   - decubs large areas of skin breakdown BL above buttock
   - added  debriding agents to left abdominal skin and decubitus ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**], stable at 26 x 6 days. Unclear
   baseline and patient is Jehovah's witness so NO BLOOD PRODUCTS. HCT
   today down to 23.3. Repeat HCTs 22.
   -can resume iron supplement when taking POs, folate, B12
   -low retic and poor iron studies suggest anemia of chronic disease
   -continue EPO
   -discuss blood products with family
   .
   #Thrombocytopenia
 Platelets stable , increasing last 3-4 days now 253
   - HIT Ab neg,
   .
   # Type 2 DM: Insluin drip d/c
d. Received lantus 50 last night and on
   sliding scale.
   - hold oral hypoglycemics for now, while not retaking PO
   .
   # Hypertension: off of pressors, butwill be weaned as tolerated.
   .
   # GERD: continue ppi as above.
   .
   # FEN: OG placed, TFs ongoing. Na stable, continue free h20 bolus to
   250ml q4h. IVF D5W at 75 ml/hr to correct free water deficit . Decrease
   free H20 flushes.
   .
   # PPx: will change fondaparinux to hep sc since HIT ab neg, ? source of
   fever, ppi [**Hospital1 **], bowel regiment
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU, active screening in process
   ICU Care
   Nutrition:
   Nutren 2.0 ([**3-18**]) - [**2161-1-8**] 08:43 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-12-30**] 10:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-10 06:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2161-1-9**] 03:42 PM
 FEVER - 101.6
F - [**2161-1-10**] 12:00 AM
   was off pressors, went down on [**Year (4 digits) 494**] to [**12-22**], became tachypneic and
   hypoxemic, gave back PEEP to 16, changed back over to AC overnight
   -lasix 40mg iv x1- dropped SBPs to 80s, put back on levophed
   -couldnt tolerate tube feeds, suctioned 200cc per ng, but restarted
   this am
   -gluc 66 on chem 7, halved glargine to 25U
   -spiked o/n- gave motrin, didnt culture again
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-7**] 08:00 AM
   Ciprofloxacin - [**2161-1-8**] 12:40 AM
   Meropenem - [**2161-1-9**] 12:10 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-9**] 08:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-10**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.7
C (101.6
   HR: 90 (90 - 120) bpm
   BP: 100/38(52) {77/31(42) - 120/57(71)} mmHg
   RR: 24 (15 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 0 (0 - 204)mmHg
   Total In:
                                                                  2,646 mL
                                                                    478 mL
   PO:
                                                                    150 mL
   TF:
                                                                    672 mL
                                                                     60 mL
   IVF:
                                                                    924 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                    590 mL
   Urine:
                                                                  2,300 mL
                                                                    590 mL
   NG:
                                                                    310 mL
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                   -764 mL
                                                                   -112 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 463 (463 - 510) mL
   PS : 0 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   SpO2: 97%
   ABG: ///23/
   Ve: 8.2 L/min
   Physical Examination
   General: Intubated, sedated, opens eyes to sternal rub
   HEENT: nc.at.OP clear.
   CV: Distant. RRR. No m/r/g
   Resp: CTAB anteriorly, vented BS
   Abd: Obese. Soft. No obvious tenderness. +BS
   Ext: 2+ edema.
   Skin: No new rash. Has stage 3 sacral decub per report but not seen on
   today
s exam
   Labs / Radiology
   287 K/uL
   6.8 g/dL
   71 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.1 mEq/L
   41 mg/dL
   115 mEq/L
   146 mEq/L
   22.2 %
   9.8 K/uL
        [image002.jpg]
                            [**2161-1-6**]  05:00 PM
                            [**2161-1-6**]  07:38 PM
                            [**2161-1-7**]  03:15 AM
                            [**2161-1-7**]  08:23 AM
                            [**2161-1-7**]  04:17 PM
                            [**2161-1-8**]  03:26 AM
                            [**2161-1-8**]  06:29 AM
                            [**2161-1-9**]  04:59 AM
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
   WBC
   13.3
   10.5
   10.6
   9.8
   Hct
   26.5
   23.3
   22.0
   21.0
   22.2
   Plt
   [**Telephone/Fax (3) 4644**]87
   Cr
   1.9
   1.7
   1.6
   1.5
   1.4
   1.5
   1.4
   TCO2
   26
   27
   Glucose
   96
   116
   145
   120
   78
   66
   71
   Other labs: PT / PTT / INR:16.1/27.6/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:48/58, Alk Phos / T Bili:56/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:83.0 %, Band:0.0 %,
   Lymph:11.0 %, Mono:2.0 %, Eos:3.0 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:565 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   AP: This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Respiratory failure: Unclear precipitant. Patient has respiratory
   difficulty at baseline and is not compliant with sleep apnea
   prescriptions (no cpap). He has been more dyspneic for several days per
   report and more somnolent, likely a sign of hypercarbia. Could be that
   hypercarbia due to increased narcotics (percocet) precipitated
   respiratory failure. Given history of hypertension and acute renal
   failure with decrease urine output, could also represent flash
   pulmonary edema (very difficult to tell on CXR).  Pt remains on [**Telephone/Fax (3) 494**],
   despite attempts to wean down on PSV and PEEP he doesn
t tolerate going
   lower than [**12-22**], getting tachycardic and desaturating even at these
   levels. Given his positive 14 L for LOS lasix of 40mg IV x1 was
   attempted but SBP dropped to 80s. It is unclear what reversible process
   we could optimize to help him off the [**Month/Day (4) 494**].
   - attempt to wean to PSV as tolerated, continue AC at night
   - continues to have thick secretions at times- send for sputum
   -may need trach in future if cannot wean off [**Last Name (LF) 494**], [**First Name3 (LF) **] readdress with
   family
   .
   # Hypotension/Fever: Again unclear etiology.  Sepsis - several possible
   sources of infection with pressors requirements, but w/u has not
   revealed clear source, potential sources include skin (multiple open
   areas with surrounding erythema and pus-like drainage). UA and U cult
   negative, CXR clear.  Blood cultures remain negative.  Echo negative
   for signs of right heart strain making PE less likely.  Gram stain from
   fluid collected from groin showed GNRs, Decub ulcers on back a mix of
   stage 2 and 3 with reduction in erythema. Also is having fever spikes
   on/off which may be secondary to drug reaction rather than infection.
   [**Last Name (un) **] stim normal. At this point ID is on board with d/c all antibiotics
   and monitor fever curve. Antibiotics D/C
d yesterday. Spiking fevers.
   - reculture; hold abx for now
   - f/u ID recommendations and cx data
   -follow fever curve
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. [**Name (NI) 1504**]
   for hyperkalemia ended [**Date range (1) 4444**]. Since then good urine output. Cr
   has continued to trend down today to 1.4.
   - monitor UOP, maintain >30cc/hour, maintain MAP>65
   - follow BUN, Cr
   - repeat pm labs
   -would allow for autodiuresis if UOP stable and avoid lasix at this
   time
   .
   # Guaiac + NG output: Noted at OSH. Hct stable last 6 days at approx
   26. Will continue conservative treatment with PPI. Likely gastritis
   related to acute decompensation. HCT 21 today, down slowly over this
   admission. As per conversation with family, wife consented to blood
   products, however mother notes he was raised [**Name (NI) 4630**] and carried card to
   refuse blood. At this time wife is HCP and thus has decision making
   rights. For now we will try to avoid transfusion unless if acutely
   worsens, draw minimal labs qd or qod (except for lytes), and check
   retic count. Also will d/c epo as this may be the cause of his fevers
   (although unlikely).
   - continue PPI
   - trend hct qod
   - will revisit blood products issue with patient when alert and able to
   discuss options
   - d/c epo
   - try to limit blood draws
   - f/u retic count
   .
   # Elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   - difficult to assess extremities fully, w/u thus far have been
   negative though possible for pt to have clots
   - will readdress based on clinical picture
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with?
   superinfectin of open areas. Covered with broad spectrum abx for
   extended period of time. At this point wounds appear to be healing well
   with good wound care.
   - wound care recs
   - miconazole cream/ powder to affected areas
   - decubs large areas of skin breakdown BL above buttock
   - added  debriding agents to left abdominal skin and decubitus ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**], stable at 26 x 6 days. Hematocrit
   has been slowly dropping over the course of his stay, work-ups for
   hemolysis have been negative. Given recent discussions with family we
   can transfuse but we will try to avoid and decrease lab draws as above.
   -can resume iron supplement when taking POs, folate, B12
   -f/u retic index
   -d/c epo
   .
   #Thrombocytopenia
 Platelets stable , increasing last 3-4 days now
   253. HIT Ab negative. Stable.
   .
   # Type 2 DM: Insluin drip d/c
d. Received lantus 50 and on sliding
   scale, lantus decreased since was NPO, will readdress insulin and
   glycemic control. Has had good control recently.
   .
   # Hypertension: Currently off pressors but with labile BPs.
   .
   # GERD: PPI.
   .
   # FEN: OG placed, TFs ongoing although held overnight. Na stable,
   continue free h20 bolus. IVF D5W at 75 ml/hr to correct free water
   deficit .
   .
   # PPx: heparin sq, ppi [**Hospital1 **], bowel regiment
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-10**] 12:00 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2160-12-30**] 10:40 AM
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-11 05:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2161-1-10**] 11:32 AM
 BLOOD CULTURED - At [**2161-1-10**] 11:45 AM
   set one from PICC. Off antibx
 BLOOD CULTURED - At [**2161-1-10**] 12:00 PM
   set 2 from LIJ.  off antibx
 MULTI LUMEN - STOP [**2161-1-10**] 06:44 PM (RIJ /C'd)
 FEVER - 101.3
F - [**2161-1-10**] 11:00 PM
   Off Levophed since around 3am
   .
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2161-1-9**] 12:10 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-10**] 08:10 AM
   Midazolam (Versed) - [**2161-1-10**] 01:35 PM
   Fentanyl - [**2161-1-10**] 01:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-11**] 05:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.2
C (100.8
   HR: 96 (88 - 111) bpm
   BP: 120/49(65) {87/29(43) - 130/54(77)} mmHg
   RR: 20 (17 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    CVP: 32 (3 - 33)mmHg
   Total In:
                                                                  2,943 mL
                                                                    395 mL
   PO:
   TF:
                                                                    480 mL
   IVF:
                                                                  1,163 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  2,360 mL
                                                                    340 mL
   Urine:
                                                                  2,360 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    583 mL
                                                                     55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 576 (576 - 606) mL
   PS : 16 cmH2O
   RR (Set): 20
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 60%
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 8.5 L/min
   Physical Examination
   General: Intubated, sedated, opens eyes to sternal rub
   HEENT: nc.at.OP clear.
   CV: Distant. RRR. No m/r/g
   Resp: CTAB anteriorly, vented BS
   Abd: Obese. Soft. No obvious tenderness. +BS
   Ext: 2+ edema.
   Skin: No new rash. Has stage 3 sacral decub per report but not seen on
   today
s exam
   Labs / Radiology
   329 K/uL
   7.4 g/dL
   99 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.3 mEq/L
   35 mg/dL
   114 mEq/L
   146 mEq/L
   24.9 %
   9.6 K/uL
        [image002.jpg]
                            [**2161-1-6**]  07:38 PM
                            [**2161-1-7**]  03:15 AM
                            [**2161-1-7**]  08:23 AM
                            [**2161-1-7**]  04:17 PM
                            [**2161-1-8**]  03:26 AM
                            [**2161-1-8**]  06:29 AM
                            [**2161-1-9**]  04:59 AM
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
                            [**2161-1-11**]  03:01 AM
   WBC
   13.3
   10.5
   10.6
   9.8
   9.6
   Hct
   26.5
   23.3
   22.0
   21.0
   22.2
   24.9
   Plt
   [**Telephone/Fax (3) 4644**]87
   329
   Cr
   1.7
   1.6
   1.5
   1.4
   1.5
   1.4
   1.4
   TCO2
   26
   27
   Glucose
   116
   145
   120
   78
   66
   71
   99
   Other labs: PT / PTT / INR:16.3/28.5/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:66.9 %, Band:0.0 %,
   Lymph:18.6 %, Mono:6.1 %, Eos:7.9 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   AP: This is a 49 y/o man with PMH of morbid obesity, type 2 DM, and
   hypertension admitted with shock, respiratory failure, and acute renal
   failure.
   .
   # Respiratory failure: Unclear precipitant. Patient has respiratory
   difficulty at baseline and is not compliant with sleep apnea
   prescriptions (no cpap). He has been more dyspneic for several days per
   report and more somnolent, likely a sign of hypercarbia. Could be that
   hypercarbia due to increased narcotics (percocet) precipitated
   respiratory failure. Given history of hypertension and acute renal
   failure with decrease urine output, could also represent flash
   pulmonary edema (very difficult to tell on CXR).  Pt remains on [**Telephone/Fax (3) 494**],
   despite attempts to wean down on PSV and PEEP he doesn
t tolerate going
   lower than [**12-22**], getting tachycardic and desaturating even at these
   levels. Given his positive 14 L for LOS lasix of 40mg IV x1 was
   attempted but SBP dropped to 80s. It is unclear what reversible process
   we could optimize to help him off the [**Month/Day (4) 494**].
   - attempt to wean to PSV as tolerated, continue AC at night
   - continues to have thick secretions at times- send for sputum
   -may need trach in future if cannot wean off [**Last Name (LF) 494**], [**First Name3 (LF) **] readdress with
   family
   .
   # Hypotension/Fever: Again unclear etiology.  Sepsis - several possible
   sources of infection with pressors requirements, but w/u has not
   revealed clear source, potential sources include skin (multiple open
   areas with surrounding erythema and pus-like drainage). UA and U cult
   negative, CXR clear.  Blood cultures remain negative.  Echo negative
   for signs of right heart strain making PE less likely.  Gram stain from
   fluid collected from groin showed GNRs, Decub ulcers on back a mix of
   stage 2 and 3 with reduction in erythema. Also is having fever spikes
   on/off which may be secondary to drug reaction rather than infection.
   [**Last Name (un) **] stim normal. At this point ID is on board with d/c all antibiotics
   and monitor fever curve. Antibiotics D/C
d yesterday. Spiking fevers.
   - reculture; hold abx for now
   - f/u ID recommendations and cx data
   -follow fever curve
   .
   # Acute renal failure: Unclear chronicity as wife reports he was told
   lately that kidneys were not functioning normally. However, missed
   recent home lab draw as no one at home to open the door per wife. [**Name (NI) 1504**]
   for hyperkalemia ended [**Date range (1) 4444**]. Since then good urine output. Cr
   has continued to trend down today to 1.4.
   - monitor UOP, maintain >30cc/hour, maintain MAP>65
   - follow BUN, Cr
   - repeat pm labs
   -would allow for autodiuresis if UOP stable and avoid lasix at this
   time
   .
   # Guaiac + NG output: Noted at OSH. Hct stable last 6 days at approx
   26. Will continue conservative treatment with PPI. Likely gastritis
   related to acute decompensation. HCT 21 today, down slowly over this
   admission. As per conversation with family, wife consented to blood
   products, however mother notes he was raised [**Name (NI) 4630**] and carried card to
   refuse blood. At this time wife is HCP and thus has decision making
   rights. For now we will try to avoid transfusion unless if acutely
   worsens, draw minimal labs qd or qod (except for lytes), and check
   retic count. Also will d/c epo as this may be the cause of his fevers
   (although unlikely).
   - continue PPI
   - trend hct qod
   - will revisit blood products issue with patient when alert and able to
   discuss options
   - d/c epo
   - try to limit blood draws
   - f/u retic count
   .
   # Elevated CK: Likely related to tissue hypoperfusion when hypotensive.
   MB index quite low making cardiac ischemia less likely. Also, EKG
   without clear evidence of ischemia.
   - monitor UO to ensure continued clearance
   .
   # Elevated D dimer: ? relevance of this in context of current
   situation. Certainly massive PE could have cause respiratory failure
   but also could have elevated d dimer due to acute renal failure, SIRS,
   and/or tissue hypoperfusion. Given guaiac positive NG output and
   knowledge that patient would not want transfusions, will err on side of
   conservative management currently with no anticoagulation. Given that
   there are other explanations for d dimer and lack of good test to make
   this diagnosis (CT not possible, VQ not possible, LENIs not good for
   diagnosis), can continue to monitor and reassess.
   - Echo without sign of PE.
   - difficult to assess extremities fully, w/u thus far have been
   negative though possible for pt to have clots
   - will readdress based on clinical picture
   .
   # Multiple areas of skin breakdown: Likely fungal in nature with?
   superinfectin of open areas. Covered with broad spectrum abx for
   extended period of time. At this point wounds appear to be healing well
   with good wound care.
   - wound care recs
   - miconazole cream/ powder to affected areas
   - decubs large areas of skin breakdown BL above buttock
   - added  debriding agents to left abdominal skin and decubitus ulcers
   .
   # Anemia: Hct 30 on arrival to [**Hospital1 19**], stable at 26 x 6 days. Hematocrit
   has been slowly dropping over the course of his stay, work-ups for
   hemolysis have been negative. Given recent discussions with family we
   can transfuse but we will try to avoid and decrease lab draws as above.
   -can resume iron supplement when taking POs, folate, B12
   -f/u retic index
   -d/c epo
   .
   #Thrombocytopenia
 Platelets stable , increasing last 3-4 days now
   253. HIT Ab negative. Stable.
   .
   # Type 2 DM: Insluin drip d/c
d. Received lantus 50 and on sliding
   scale, lantus decreased since was NPO, will readdress insulin and
   glycemic control. Has had good control recently.
   .
   # Hypertension: Currently off pressors but with labile BPs.
   .
   # GERD: PPI.
   .
   # FEN: OG placed, TFs ongoing although held overnight. Na stable,
   continue free h20 bolus. IVF D5W at 75 ml/hr to correct free water
   deficit .
   .
   # PPx: heparin sq, ppi [**Hospital1 **], bowel regiment
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-11**] 12:00 AM
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-12 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.5
F - [**2161-1-11**] 08:00 AM
   - Evalauted by Thoracic Surgery
   - Pressors weaned slightly
   - Made NPO pMN for potential trach today, decision made not to undergo
   PEG due to risk of open surgery at this time
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2161-1-11**] 01:39 PM
   Pantoprazole (Protonix) - [**2161-1-11**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-11**] 08:01 PM
   Midazolam (Versed) - [**2161-1-11**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-12**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.9
C (100.2
   HR: 84 (84 - 104) bpm
   BP: 101/44(57) {95/35(49) - 151/57(77)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,575 mL
                                                                    145 mL
   PO:
             TF:
                                                                    583 mL
   IVF:
                                                                    712 mL
                                                                    145 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                    815 mL
   Urine:
                                                                  2,615 mL
                                                                    815 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                   -670 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 657 (430 - 756) mL
   PS : 16 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: ///27/
   Ve: 7.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   287 K/uL
   6.6 g/dL
   89 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.9 mEq/L
   28 mg/dL
   115 mEq/L
   148 mEq/L
   22.6 %
   6.8 K/uL
        [image002.jpg]
                            [**2161-1-7**]  03:15 AM
                            [**2161-1-7**]  08:23 AM
                            [**2161-1-7**]  04:17 PM
                            [**2161-1-8**]  03:26 AM
                            [**2161-1-8**]  06:29 AM
                            [**2161-1-9**]  04:59 AM
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
                            [**2161-1-11**]  03:01 AM
                            [**2161-1-12**]  03:32 AM
   WBC
   13.3
   10.5
   10.6
   9.8
   9.6
   6.8
   Hct
   26.5
   23.3
   22.0
   21.0
   22.2
   24.9
   22.6
   Plt
   [**Telephone/Fax (3) 4644**]87
   329
   287
   Cr
   1.7
   1.6
   1.5
   1.4
   1.5
   1.4
   1.4
   1.2
   TCO2
   27
   Glucose
   116
   145
   120
   78
   66
   71
   99
   89
   Other labs: PT / PTT / INR:16.3/28.5/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:66.9 %, Band:0.0 %,
   Lymph:18.6 %, Mono:6.1 %, Eos:7.9 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure.
   .
   # Hypercarbic Respiratory failure: Etiology unclear although also most
   likely secondary to obesity and has baseline sleep apnea. Pt remains on
   pressure support 16/10 with 10 PEEP. Still unclear if underlying lung
   infection. Empiric treatment now d/c
   - Will d/w thoracic surgery trach surgery timeline (PEG unlikely at
   this point because of need for open procedure)
   - Pt has documentation to receive blood intraoperatively (wife
   consented) if pt needs transfusions (Pt is Jehovah
s Witness).
   .
   # Hypotension/Fever:  Differential includes sepsis of unclear etiology,
   less likely hypovolemia. Pt remains on Levophed. Sources of infection
   include skin, lung. Other potential locations (i.e. bone) are also
   possible however given the patients size, assessment radiographically
   is currently very limited.
   -  Currently holding antibiotics per ID recs are will re-culture, and
   re-initiate empiric abx.
   .
   # ARF: Cr 1.2 down from 1.4. Good UOP.
   -  monitor UOP, maintain >30cc/hour, maintain MAP>65
   -  follow BUN, Cr
   .
   # Anemia: Guaiac + NG output noted at OSH. Hct initially stable.
   Potentially gastritis related to acute decompensation. As per
   conversation with family, wife consented to blood products if
   absolutely necessary (i.e. during PEG and/or Trach surgery).  Hct
   continues to trend down slowly.  Fe studies suggest anemia of chronic
   disease.
   - continue PPI
   - trend hct
   .
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some also
   unstageable.
   - Now off all antibiotics. superinfectin of open areas. Covered with
   broad spectrum abx for extended period of time. At this point
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   - consulting pastic surgery to address decubitus ulcers
   .
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN: OG placed, TFs (increased residuals)  ongoing although held
   overnight. Na stable, continue free h20 bolus. IVF D5W at 75 ml/hr to
   correct free water deficit.
   .
   #Thrombocytopenia
 Platelets stable , increasing last 3-4 days now
   253. HIT Ab negative. Stable.  No acute issue
   .
   # Hypertension: Currently off pressors. No current issues.
   .
   # PPx: heparin sq, ppi [**Hospital1 **], bowel regiment
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-12 11:08:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.5
F - [**2161-1-11**] 08:00 AM
   Persistent fevers, persistent vasopressor requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2161-1-11**] 01:39 PM
   Pantoprazole (Protonix) - [**2161-1-11**] 08:01 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-11**] 08:01 PM
   Midazolam (Versed) - [**2161-1-11**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2161-1-12**] 11:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.8
C (100
   HR: 85 (84 - 104) bpm
   BP: 118/58(72) {95/35(49) - 151/58(77)} mmHg
   RR: 16 (14 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,575 mL
                                                                    244 mL
   PO:
             TF:
                                                                    583 mL
   IVF:
                                                                    712 mL
                                                                    244 mL
   Blood products:
   Total out:
                                                                  2,615 mL
                                                                  1,055 mL
   Urine:
                                                                  2,615 mL
                                                                  1,055 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -40 mL
                                                                   -811 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 719 (457 - 756) mL
   PS : 16 cmH2O
   RR (Spontaneous): 15
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: ///27/
   Ve: 6.6 L/min
   Physical Examination
   Gen: intubated and sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Skin:  Warm
   Neurologic: alert, answering verbal question sby nodding
   Labs / Radiology
   6.6 g/dL
   287 K/uL
   89 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.9 mEq/L
   28 mg/dL
   115 mEq/L
   148 mEq/L
   22.6 %
   6.8 K/uL
        [image002.jpg]
                            [**2161-1-7**]  03:15 AM
                            [**2161-1-7**]  08:23 AM
                            [**2161-1-7**]  04:17 PM
                            [**2161-1-8**]  03:26 AM
                            [**2161-1-8**]  06:29 AM
                            [**2161-1-9**]  04:59 AM
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
                            [**2161-1-11**]  03:01 AM
                            [**2161-1-12**]  03:32 AM
   WBC
   13.3
   10.5
   10.6
   9.8
   9.6
   6.8
   Hct
   26.5
   23.3
   22.0
   21.0
   22.2
   24.9
   22.6
   Plt
   [**Telephone/Fax (3) 4644**]87
   329
   287
   Cr
   1.7
   1.6
   1.5
   1.4
   1.5
   1.4
   1.4
   1.2
   TCO2
   27
   Glucose
   116
   145
   120
   78
   66
   71
   99
   89
   Other labs: PT / PTT / INR:16.3/28.5/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:66.9 %, Band:0.0 %,
   Lymph:18.6 %, Mono:6.1 %, Eos:7.9 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   CXR: severely underpenetrated limiting quality of the film
   Micro: no new data
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   1.       Resp Failure: Agree with plan to treat respiratory failure
   with continued attempts at slow vent wean while on PSV during day;
   continue 16/10 for now during day
 rest on AC at night. If he fails to
   improve, will need trach next week.  We discussed this briefly with
   family today and have asked surgical services to begin to assess for
   trach and feeding tube.
   2.       Persistent Hypotension and Fevers: Off antibiotics after
   discussion with ID service.  Will need to discuss whether open back
   wounds require more chronic (osteomyelitis-like) treatment.  Will
   reculture for spike. Hypotension and fever without obvious source -
   ?skin sepsis source.  Attempt to wean pressors.
   3.       ARF has improved, probably as a result of increased perfusion
   pressures. Needs free water deficit repletion
   4.       His anemia is stable, will minimize blood draws given desire
   to avoid transfusion, but can receive transfusion with surgery if
   required.
   5.       Ongoing wound care per skin care team. Platelets are stable /
   improving on heparin for now.
   6.       Will continue lantus and aggressive RISS for poorly controlled
   DM2, off insulin drip.
   7.       Tube feeds resumed.
   8.       Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB chlorhex
   Communication:  with family at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2161-01-13 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.3
F - [**2161-1-13**] 12:00 AM
   [**2161-1-13**]
   - NPO for trach in AM
   - Pts Na this AM was 150, giving 1L D5W
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-13**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.8
   HR: 88 (83 - 128) bpm
   BP: 118/52(67) {102/18(42) - 148/61(80)} mmHg
   RR: 15 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    620 mL
                                                                    359 mL
   PO:
             TF:
                                                                     90 mL
                                                                      4 mL
   IVF:
                                                                    530 mL
                                                                    355 mL
   Blood products:
   Total out:
                                                                  3,775 mL
                                                                    880 mL
   Urine:
                                                                  2,875 mL
                                                                    880 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,155 mL
                                                                   -521 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 595 (490 - 719) mL
   PS : 16 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 8.1 L/min
   Physical Examination
   Gen: intubated and sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   Skin:  Warm
   Neurologic: awakes to sternal rub, seems agitated upon awakening,
   writhing in bed
   Labs / Radiology
   268 K/uL
   6.9 g/dL
   116 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   21 mg/dL
   117 mEq/L
   150 mEq/L
   23.5 %
   6.7 K/uL
        [image002.jpg]
                            [**2161-1-7**]  08:23 AM
                            [**2161-1-7**]  04:17 PM
                            [**2161-1-8**]  03:26 AM
                            [**2161-1-8**]  06:29 AM
                            [**2161-1-9**]  04:59 AM
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
                            [**2161-1-11**]  03:01 AM
                            [**2161-1-12**]  03:32 AM
                            [**2161-1-13**]  03:32 AM
   WBC
   10.5
   10.6
   9.8
   9.6
   6.8
   6.7
   Hct
   23.3
   22.0
   21.0
   22.2
   24.9
   22.6
   23.5
   Plt
   [**Telephone/Fax (3) 4679**]29
   287
   268
   Cr
   1.6
   1.5
   1.4
   1.5
   1.4
   1.4
   1.2
   1.1
   TCO2
   27
   Glucose
   145
   120
   78
   66
   71
   99
   89
   116
   Other labs: PT / PTT / INR:17.1/27.6/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:66.9 %, Band:0.0 %,
   Lymph:18.6 %, Mono:6.1 %, Eos:7.9 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Labs: Na 150<-148  HCT 23.5<-22.6 crp 111   esr 80
   Micro: [**1-10**] tip cx: >15 col GNR >15col coag neg staph
   Imaging CXR [**1-12**]
   IMPRESSION:
   1. Endotracheal tube ends approximately 8.1 cm above the carina and
   could be
   advanced for standard positioning.
   2. Linear density adjacent to the endotracheal tube ends right below
   the
   level of the clavicles, and may correspond with patient's NG tube in
   proximal position.
   3. Although evaluation is limited due to body habitus and low lung
   volumes,
   there is probable perihilar edema.
   4. Left lower lobe opacity, unchanged, likely atelectasis with pleural
   effusion.
   Assessment and Plan
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure.
   .
   # Hypercarbic Respiratory failure: Etiology unclear although also most
   likely secondary to obesity and has baseline sleep apnea. Difficult to
   see if infiltrate on CXR although none obvious. Pt remains on pressure
   support 16/10. Still unclear if underlying lung infection. Empiric
   treatment now d/c
d for PNA. Planned trach today. 3L negative yesterday
   which may help respiratory status.
   - have been doing AC at night, PSV during day at 16/10.
   - trach today (PEG unlikely at this point because of need for open
   procedure)
   - Pt has documentation to receive blood intraoperatively (wife
   consented) if pt needs transfusions (Pt is Jehovah
s Witness)
   - f/u cx data
   .
   # Hypotension/Fever:  Differential includes sepsis of unclear etiology,
   less likely hypovolemia. Pt remains on Levophed. So
   urces of infection include skin, lung. Other potential locations (i.e.
   bone) are also possible however given the patients size, assessment
   radiographically is currently very limited. Could consider empirically
   treating osteo, following blood markers (ESR, CRP) . All cx still NGTD.
   Could have line infection with positive tip cx but would expect
   positive blood cultures which he has not had/. Seen by plastics
   regarding sacral decubs who did not have further recs. WBC down.
   -  Currently holding antibiotics per ID recs are will re-culture, and
   re-initiate empiric abx if respikes.
   - F/U cx data
   - CIS
   .
   # ARF: Cr 1.1 down from 1.4. Good UOP.
   -  monitor UOP, maintain >30cc/hour, maintain MAP>65
   -  follow BUN, Cr
   .
   # Anemia: Guaiac + NG output noted at OSH. Hct initially stable.
   Potentially gastritis related to acute decompensation. As per
   conversation with family, wife consented to blood products if
   absolutely necessary (i.e. during PEG and/or Trach surgery).  Hct
   continues to trend down slowly.  Fe studies suggest anemia of chronic
   disease.
   - continue PPI
   - trend hct
   .
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some also
   unstageable. Could be possible source of fever.
   - Now off all antibiotics. superinfectin of open areas. Covered with
   broad spectrum abx for extended period of time.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   - f/u plastic surgery recs
   .
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN: OG placed, holding TFs (increased residuals). [**Month (only) 51**] need dobhoff
   after trach placed. Unable to place PEG secondary to body habitus.
   Hypernatremic, getting D5W, will repeat in pm and replace free water
   deficit.
   .
   #Thrombocytopenia
 Platelets stable , increasing last 3-4 days now
   253. HIT Ab negative. Stable.  No acute issue
   .
   # Hypertension: Currently off pressors. No current issues.
   .
   # PPx: heparin sq, ppi [**Hospital1 **], bowel regimen
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-13 08:20:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.3
F - [**2161-1-13**] 12:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Norepinephrine - 0.02 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-13**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.7
C (99.8
   HR: 95 (80 - 128) bpm
   BP: 122/56(71) {102/18(42) - 148/61(80)} mmHg
   RR: 18 (13 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                    620 mL
                                                                    750 mL
   PO:
             TF:
                                                                     90 mL
                                                                      4 mL
   IVF:
                                                                    530 mL
                                                                    726 mL
   Blood products:
   Total out:
                                                                  3,775 mL
                                                                  1,160 mL
   Urine:
                                                                  2,875 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,155 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 595 (490 - 693) mL
   PS : 16 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 26 cmH2O
   SpO2: 98%
   ABG: ///25/
   Ve: 8.1 L/min
   Physical Examination
   Labs / Radiology
   6.9 g/dL
   268 K/uL
   116 mg/dL
   1.1 mg/dL
   25 mEq/L
   3.9 mEq/L
   21 mg/dL
   117 mEq/L
   150 mEq/L
   23.5 %
   6.7 K/uL
        [image002.jpg]
                            [**2161-1-7**]  08:23 AM
                            [**2161-1-7**]  04:17 PM
                            [**2161-1-8**]  03:26 AM
                            [**2161-1-8**]  06:29 AM
                            [**2161-1-9**]  04:59 AM
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
                            [**2161-1-11**]  03:01 AM
                            [**2161-1-12**]  03:32 AM
                            [**2161-1-13**]  03:32 AM
   WBC
   10.5
   10.6
   9.8
   9.6
   6.8
   6.7
   Hct
   23.3
   22.0
   21.0
   22.2
   24.9
   22.6
   23.5
   Plt
   [**Telephone/Fax (3) 4679**]29
   287
   268
   Cr
   1.6
   1.5
   1.4
   1.5
   1.4
   1.4
   1.2
   1.1
   TCO2
   27
   Glucose
   145
   120
   78
   66
   71
   99
   89
   116
   Other labs: PT / PTT / INR:17.1/27.6/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:66.9 %, Band:0.0 %,
   Lymph:18.6 %, Mono:6.1 %, Eos:7.9 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   1.   Resp Failure: For trach today. Agree with plan to treat
   respiratory failure with continued attempts at slow vent wean while on
   PSV during day; continue 16/10 for now
 try to back off on settings
   after trach when can reposition/sit up
   2.       Persistent Hypotension and Fevers: Off antibiotics after
   ongoing discussions with ID service.  Will need to discuss whether open
   back wounds require more chronic (osteomyelitis-like) treatment.  Will
   call for plastics consultation to see if bedside proibe or coordinated
   eval in OR when goes for trach would be helpful.
   3.       ARF has improved, probably as a result of increased perfusion
   pressures. Needs free water deficit repletion
   4.       His anemia is stable, will minimize blood draws given desire
   to avoid transfusion, but can receive transfusion with surgery if
   required
 but need to get consent from wife
   5.       Ongoing wound care per skin care team. Platelets are stable /
   improving on heparin for now.
   6.       Will continue lantus and aggressive RISS for poorly controlled
   DM2, off insulin drip.
   7.       Tube feeds resumed.
   ICU Care
   Nutrition: TF on hold for trach
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: HOB and chlorhex
   Communication:  with family
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   Addendum
   Physical Exam
   Intubated and sedated obese male, trach CDI, RR, distant BS without
   wheeze, abd osbese soft BS ext with 4+ edema
   ------ Protected Section Addendum Entered By:[**Name (NI) 90**] [**Last Name (NamePattern1) 385**], MD
   on:[**2161-1-14**] 11:38 AM ------

2161-01-14 06:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2161-1-13**] 12:00 PM
 OR RECEIVED - At [**2161-1-13**] 02:55 PM
   - tracheostomy performed, XRs reviewed with thoracics after call from
   radiology for "concerns" with trach placement - no issues
   - Hct stable for first two post-operative CBCs
   - Pts Na this AM was 150, giving 1L D5W
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-13**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-14**] 04:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-14**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.6
C (97.9
   HR: 129 (80 - 129) bpm
   BP: 125/62(79) {99/43(56) - 129/62(79)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  2,217 mL
                                                                    670 mL
   PO:
             TF:
                                                                     36 mL
                                                                     89 mL
   IVF:
                                                                  2,062 mL
                                                                    481 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    630 mL
   Urine:
                                                                  2,090 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -273 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 442 (442 - 594) mL
   PS : 16 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 96%
   ABG: ///27/
   Ve: 6.8 L/min
   Physical Examination
   Gen: intubated and sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   Skin:  Warm
   Neurologic: awakes to sternal rub, seems agitated upon awakening,
   writhing in bed
   Labs / Radiology
   192 K/uL
   7.2 g/dL
   97 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.9 mEq/L
   16 mg/dL
   114 mEq/L
   148 mEq/L
   23.2 %
   6.4 K/uL
        [image002.jpg]
                            [**2161-1-8**]  03:26 AM
                            [**2161-1-8**]  06:29 AM
                            [**2161-1-9**]  04:59 AM
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
                            [**2161-1-11**]  03:01 AM
                            [**2161-1-12**]  03:32 AM
                            [**2161-1-13**]  03:32 AM
                            [**2161-1-13**]  05:04 PM
                            [**2161-1-14**]  12:15 AM
   WBC
   10.5
   10.6
   9.8
   9.6
   6.8
   6.7
   6.9
   6.4
   Hct
   23.3
   22.0
   21.0
   22.2
   24.9
   22.6
   23.5
   23.0
   23.2
   Plt
   [**Telephone/Fax (3) 4679**]29
   287
   268
   278
   192
   Cr
   1.5
   1.4
   1.5
   1.4
   1.4
   1.2
   1.1
   1.1
   1.0
   Glucose
   120
   78
   66
   71
   99
   89
   116
   103
   97
   Other labs: PT / PTT / INR:17.1/27.6/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:66.9 %, Band:0.0 %,
   Lymph:18.6 %, Mono:6.1 %, Eos:7.9 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure.
   .
   # Hypercarbic Respiratory failure: Etiology unclear although also most
   likely secondary to obesity and has baseline sleep apnea. Difficult to
   see if infiltrate on CXR although none obvious. Pt remains on pressure
   support 16/10. Still unclear if underlying lung infection. Empiric
   treatment now d/c
d for PNA. Planned trach today. 3L negative yesterday
   which may help respiratory status.
   - have been doing AC at night, PSV during day at 16/10.
   - trach today (PEG unlikely at this point because of need for open
   procedure)
   - Pt has documentation to receive blood intraoperatively (wife
   consented) if pt needs transfusions (Pt is Jehovah
s Witness)
   - f/u cx data
   .
   # Hypotension/Fever:  Differential includes sepsis of unclear etiology,
   less likely hypovolemia. Pt remains on Levophed. So
   urces of infection include skin, lung. Other potential locations (i.e.
   bone) are also possible however given the patients size, assessment
   radiographically is currently very limited. Could consider empirically
   treating osteo, following blood markers (ESR, CRP) . All cx still NGTD.
   Could have line infection with positive tip cx but would expect
   positive blood cultures which he has not had/. Seen by plastics
   regarding sacral decubs who did not have further recs. WBC down.
   -  Currently holding antibiotics per ID recs are will re-culture, and
   re-initiate empiric abx if respikes.
   - F/U cx data
   - CIS
   .
   # ARF: Cr 1.1 down from 1.4. Good UOP.
   -  monitor UOP, maintain >30cc/hour, maintain MAP>65
   -  follow BUN, Cr
   .
   # Anemia: Guaiac + NG output noted at OSH. Hct initially stable.
   Potentially gastritis related to acute decompensation. As per
   conversation with family, wife consented to blood products if
   absolutely necessary (i.e. during PEG and/or Trach surgery).  Hct
   continues to trend down slowly.  Fe studies suggest anemia of chronic
   disease.
   - continue PPI
   - trend hct
   .
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some also
   unstageable. Could be possible source of fever.
   - Now off all antibiotics. superinfectin of open areas. Covered with
   broad spectrum abx for extended period of time.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   - f/u plastic surgery recs
   .
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN: OG placed, holding TFs (increased residuals). [**Month (only) 51**] need dobhoff
   after trach placed. Unable to place PEG secondary to body habitus.
   Hypernatremic, getting D5W, will repeat in pm and replace free water
   deficit.
   .
   #Thrombocytopenia
 Platelets stable , increasing last 3-4 days now
   253. HIT Ab negative. Stable.  No acute issue
   .
   # Hypertension: Currently off pressors. No current issues.
   .
   # PPx: heparin sq, ppi [**Hospital1 **], bowel regimen
   .
   # CODE: full, confirmed with wife
   .
   # COMM: with patient and family. Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   .
   # DISP: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   20 Gauge - [**2161-1-13**] 02:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-14 10:06:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 OR SENT - At [**2161-1-13**] 12:00 PM
 OR RECEIVED - At [**2161-1-13**] 02:55 PM
   s/p trach yesterday - tolerated well
   Back on PSV this AM
   CVL tip Acinectobacter and Staph epi but thought to be contaminant as
   off ABX and has not been spiking
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-1-14**] 04:51 AM
   Pantoprazole (Protonix) - [**2161-1-14**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-14**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 91 (80 - 129) bpm
   BP: 109/52(64) {99/43(56) - 129/62(79)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,217 mL
                                                                  1,140 mL
   PO:
             TF:
                                                                     36 mL
                                                                    193 mL
   IVF:
                                                                  2,062 mL
                                                                    548 mL
   Blood products:
   Total out:
                                                                  2,490 mL
                                                                    790 mL
   Urine:
                                                                  2,090 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -273 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 500) mL
   Vt (Spontaneous): 589 (442 - 589) mL
   PS : 16 cmH2O
   RR (Set): 0
   RR (Spontaneous): 14
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: ///27/
   Ve: 9.1 L/min
   Physical Examination
   Gen: intubated and sedated
   HEENT trach NGT
   CV: rr
   Chest : Diminihsed bS
   ABd: obese soft +BS
   Ext: 4+ edema
   Neuro: sedated
   Labs / Radiology
   7.2 g/dL
   192 K/uL
   97 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.9 mEq/L
   16 mg/dL
   114 mEq/L
   148 mEq/L
   23.2 %
   6.4 K/uL
        [image002.jpg]
                            [**2161-1-8**]  03:26 AM
                            [**2161-1-8**]  06:29 AM
                            [**2161-1-9**]  04:59 AM
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
                            [**2161-1-11**]  03:01 AM
                            [**2161-1-12**]  03:32 AM
                            [**2161-1-13**]  03:32 AM
                            [**2161-1-13**]  05:04 PM
                            [**2161-1-14**]  12:15 AM
   WBC
   10.5
   10.6
   9.8
   9.6
   6.8
   6.7
   6.9
   6.4
   Hct
   23.3
   22.0
   21.0
   22.2
   24.9
   22.6
   23.5
   23.0
   23.2
   Plt
   [**Telephone/Fax (3) 4679**]29
   287
   268
   278
   192
   Cr
   1.5
   1.4
   1.5
   1.4
   1.4
   1.2
   1.1
   1.1
   1.0
   Glucose
   120
   78
   66
   71
   99
   89
   116
   103
   97
   Other labs: PT / PTT / INR:17.1/27.6/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:66.9 %, Band:0.0 %,
   Lymph:18.6 %, Mono:6.1 %, Eos:7.9 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   1.   Resp Failure: s/p trach and back on PSV  16/10
 try to wean to
   [**2162-12-28**] then push on PEEP and assess his response.
   2.       Fevers: trend is down and only 99 last 24 hours. Off
   antibiotics.  Appreciate Plastics eval and felt no surgical inducation
   for decubital wounds simply wound care. Did have = CVL tip cx, but ?
   contaninant, check blood cxs if spikes.
   3.       ARF has improved, probably as a result of increased perfusion
   pressures. Needs ongoing IV free water deficit repletion
   4.       His anemia is stable, will minimize blood draws given desire
   to avoid transfusion, but can receive transfusion if required
consent
   from wife
   5.       Ongoing wound care per skin care team. Platelets are stable /
   improving on heparin for now.
   6.       Will continue lantus and aggressive RISS for poorly controlled
   DM2, off insulin drip.
   7.            Tube feeds resumed post trach
   Need to begin process of screening for [**Hospital 4714**] rehab. He could go with
   NGT or dophiff as surgery would like to avpid PEG if at all possible
   given habitus and would like vent rehab and swallowing evals to fail
   before PEG. Will call case management.
   ICU Care
   Nutrition: Replete with Fiber (Full) - [**2161-1-14**] 07:00 AM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   20 Gauge - [**2161-1-13**] 02:50 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: ppi
   Communication:  updated family at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 35

2161-01-15 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2161-1-14**] 11:00 PM
 FEVER - 101.8
F - [**2161-1-14**] 10:00 PM
   - Tm 101.8 Ax, Blood, Urine and Sputum sent
   - Increased PS overnight to 16/10 from [**10-24**]
   The patient is awake this AM and complaining of abdominal pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-14**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-15**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-15**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.3
C (101
   HR: 93 (88 - 127) bpm
   BP: 96/37(51) {96/37(51) - 133/60(78)} mmHg
   RR: 22 (16 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  5,389 mL
                                                                  1,253 mL
   PO:
             TF:
                                                                    799 mL
                                                                    250 mL
   IVF:
                                                                  2,221 mL
                                                                  1,003 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    505 mL
   Urine:
                                                                  1,950 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,439 mL
                                                                    748 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 549 (421 - 683) mL
   PS : 16 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 95%
   ABG: ///26/
   Ve: 11.6 L/min
   Physical Examination
   Gen: intubated, awake able to communicate with nodding
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   Skin:  Warm
   Neurologic: awakes to sternal rub, seems agitated upon awakening,
   writhing in bed
   Labs / Radiology
   289 K/uL
   6.9 g/dL
   99 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.5 mEq/L
   14 mg/dL
   111 mEq/L
   143 mEq/L
   22.8 %
   6.9 K/uL
        [image002.jpg]
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
                            [**2161-1-11**]  03:01 AM
                            [**2161-1-12**]  03:32 AM
                            [**2161-1-13**]  03:32 AM
                            [**2161-1-13**]  05:04 PM
                            [**2161-1-14**]  12:15 AM
                            [**2161-1-14**]  04:17 PM
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
   WBC
   9.8
   9.6
   6.8
   6.7
   6.9
   6.4
   6.9
   Hct
   22.2
   24.9
   22.6
   23.5
   23.0
   23.2
   22.8
   Plt
   287
   329
   287
   [**Telephone/Fax (3) 4728**]
   289
   Cr
   1.5
   1.4
   1.4
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   1.0
   Glucose
   66
   71
   99
   89
   116
   103
   97
   86
   86
   99
   Other labs: PT / PTT / INR:17.1/27.6/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:66.9 %, Band:0.0 %,
   Lymph:18.6 %, Mono:6.1 %, Eos:7.9 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure.
   # Hypercarbic Respiratory failure: Pt is s/p trach placement. Patient
   is tolerating PSV today.  CXR shows question of right sided infiltrate
   however may have been related to positioning.
   - will continue to wean sedation given tolerating PSV
   - f/u cx data
   - reposition in bed
   .
# Hypotension/Fever:  Pt spiked a temp overnight.  Pan cultured.  UA shows evide
nce of UTI, will follow urine cultures.  Urology contact[**Name (NI) **] regarding replacement
 of foley catheter, and they declined.  Other cultures remains without growth to
 date.  Per plastics wounds described as multiple stage 2-3 ulcers with fibrinou
s bases and granulating edges. No evidence of superinfection. IV tip culture (Ac
inetobacter, Coag Neg Staph)  thought to be contaminants per ID.
- will resend c. diff toxin, will get mini-bal today
   -  Currently holding antibiotics per ID recs are will re-culture, and
   will consider re-initiating empiric abx today for urinary coverage
   likely with ceftriaxone.
   -  F/U cx data
   -  CIS
   - As patient has been markedly positive given fluids, will start on
   lasix drip to attempt to make the patient even with regards to fluid
   status
   .
   # ARF: Cr remains stable at 1.0. Good UOP.  Received 1L of free water
   this AM for Na of 150. Free water flushes currently 250cc Q2hr.
   -  monitor UOP, maintain >30cc/hour, maintain MAP>65
   .
   # Anemia: Hct remains stable at 22.  As per conversation with family,
   wife consented to blood products if absolutely necessary (i.e. during
   PEG and/or Trach surgery).  Fe studies suggest anemia of chronic
   disease.
   - continue PPI
   - trend hct
   .
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some unstageable.
   Questionable source of prior fever.
   - Remains off antibiotics.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   - f/u plastic surgery recs
   .
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN Pt Hypernatremic to 150 overnight, given 1L D5W.  Will contact IR
   for possible doboff placement
   -          Another 1L D5W this afternoon
   -          PM lytes
   -          Replace mag and phos today
   ICU Care
   Nutrition: Tube Feeds at 30 currently with goal of 80. Free water
   flushes 250 q2hr
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   20 Gauge - [**2161-1-13**] 02:50 PM
   Prophylaxis:  Heparin sq, PPI [**Hospital1 **], bowel regimen
   Communication:  Wife [**Name (NI) 4379**] [**Name (NI) 4377**] is [**Telephone/Fax (1) 4380**].
   Code status: Full code
   Disposition: MICU, potential bed at Radius on Friday

2161-01-15 10:58:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2161-1-14**] 11:00 PM
 FEVER - 101.8
F - [**2161-1-14**] 10:00 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-1-15**] 04:02 AM
   Midazolam (Versed) - [**2161-1-15**] 08:51 AM
   Fentanyl - [**2161-1-15**] 08:51 AM
   Pantoprazole (Protonix) - [**2161-1-15**] 08:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2161-1-15**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 38.3
C (101
   HR: 96 (88 - 127) bpm
   BP: 120/54(69) {96/37(51) - 133/60(78)} mmHg
   RR: 22 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  5,389 mL
                                                                  2,004 mL
   PO:
             TF:
                                                                    799 mL
                                                                    685 mL
   IVF:
                                                                  2,221 mL
                                                                  1,069 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    785 mL
   Urine:
                                                                  1,950 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,439 mL
                                                                  1,219 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 450 (421 - 683) mL
   PS : 16 cmH2O
   RR (Spontaneous): 24
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 96%
   ABG: ///26/
   Ve: 11.4 L/min
   Physical Examination
   Gen: intubated and sedated
   HEENT trach NGT
   CV: rr
   Chest : Diminihsed bS
   ABd: obese soft +BS
   Ext: 4+ edema
   Neuro: sedated, apparently following ocmmands for family earlier but
   not for me though got Fenatnyl bolus
   Labs / Radiology
   6.9 g/dL
   289 K/uL
   99 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.5 mEq/L
   14 mg/dL
   111 mEq/L
   143 mEq/L
   22.8 %
   6.9 K/uL
        [image002.jpg]
                            [**2161-1-9**]  03:59 PM
                            [**2161-1-10**]  03:22 AM
                            [**2161-1-11**]  03:01 AM
                            [**2161-1-12**]  03:32 AM
                            [**2161-1-13**]  03:32 AM
                            [**2161-1-13**]  05:04 PM
                            [**2161-1-14**]  12:15 AM
                            [**2161-1-14**]  04:17 PM
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
   WBC
   9.8
   9.6
   6.8
   6.7
   6.9
   6.4
   6.9
   Hct
   22.2
   24.9
   22.6
   23.5
   23.0
   23.2
   22.8
   Plt
   287
   329
   287
   [**Telephone/Fax (3) 4728**]
   289
   Cr
   1.5
   1.4
   1.4
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   1.0
   Glucose
   66
   71
   99
   89
   116
   103
   97
   86
   86
   99
   Other labs: PT / PTT / INR:17.1/27.6/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:62.2 %, Band:0.0 %,
   Lymph:23.1 %, Mono:6.4 %, Eos:7.9 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.7 mg/dL, PO4:1.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   1.        Resp Failure: s/p trach and back on PSV 16/10
 try to wean
   to [**2162-12-28**] then push on PEEP and assess his response.
   2.       Fevers: Off antibiotics but new and higher fever. Pan culture.
   Mini BAL
 does have ? infiltrate on CXR, and recurrent fevers. Pan
   culture all lines, stool, urine
   3.       ARF has improved, probably as a result of increased perfusion
   pressures. Needs ongoing IV free water deficit repletion/. Will start
   IV lasix to keep even. Watch BPs
   4.       His anemia is stable, will minimize blood draws given desire
   to avoid transfusion, but can receive transfusion if required
would
   consent from wife
   5.       Ongoing wound care per skin care team. Platelets are stable /
   improving on heparin for now.
   6.       Will continue lantus and aggressive RISS for poorly controlled
   DM2, off insulin drip.
   7. Sedation: will start on Fentanyl patch 50 mcg, wean drip
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-15**] 04:10 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   20 Gauge - [**2161-1-13**] 02:50 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer:
   VAP: HOB chlorhex
   Communication:  with wife at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-01-16 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2161-1-15**] 12:00 PM
   r/o c -diff
 BLOOD CULTURED - At [**2161-1-15**] 05:00 PM
   venipuncture
 SPUTUM CULTURE - At [**2161-1-15**] 05:03 PM
 URINE CULTURE - At [**2161-1-15**] 05:03 PM
 BLOOD CULTURED - At [**2161-1-15**] 05:15 PM
   second set PICC
 URINE CULTURE - At [**2161-1-15**] 10:47 PM
 FEVER - 103.1
F - [**2161-1-15**] 04:00 PM
   - Tm 103, no cultures sent
   - Given bolus of 500cc NS for hypotension down to SBP in the 90's
   - Started broad spectrum antibiotics of vancomycin, tobramycin and
   meropenem with doses per pharmacy
   - CXR done
   - Replaced K and Phos
   - C. Diff positive, started PO flagyl 500 TID, and discontinued
   tobramycin given likely cause of worsening fevers and hypotension
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2161-1-15**] 11:34 PM
   Vancomycin - [**2161-1-16**] 12:19 AM
   Meropenem - [**2161-1-16**] 06:14 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2161-1-15**] 06:18 PM
   Midazolam (Versed) - [**2161-1-15**] 06:19 PM
   Pantoprazole (Protonix) - [**2161-1-15**] 08:26 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-16**] 04:18 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-16**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.2
C (98.9
   HR: 87 (84 - 122) bpm
   BP: 105/38(52) {86/31(46) - 125/65(79)} mmHg
   RR: 38 (20 - 38) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  6,636 mL
                                                                  1,308 mL
   PO:
             TF:
                                                                  1,719 mL
                                                                    569 mL
   IVF:
                                                                  3,287 mL
                                                                    690 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    275 mL
   Urine:
                                                                  1,575 mL
                                                                    275 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  4,061 mL
                                                                  1,033 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (450 - 605) mL
   PS : 16 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 98%
   ABG: ///26/
   Ve: 7.7 L/min
   Physical Examination
   Gen: intubated, awake able to communicate with nodding
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   Skin:  Warm
   Neurologic: awakes to sternal rub, seems agitated upon awakening,
   writhing in bed
   Labs / Radiology
   299 K/uL
   7.1 g/dL
   126 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.3 mEq/L
   14 mg/dL
   108 mEq/L
   142 mEq/L
   23.2 %
   7.0 K/uL
        [image002.jpg]
                            [**2161-1-12**]  03:32 AM
                            [**2161-1-13**]  03:32 AM
                            [**2161-1-13**]  05:04 PM
                            [**2161-1-14**]  12:15 AM
                            [**2161-1-14**]  04:17 PM
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
                             [**2161-1-15**]  05:10 PM
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
   WBC
   6.8
   6.7
   6.9
   6.4
   6.9
   6.7
   7.0
   Hct
   22.6
   23.5
   23.0
   23.2
   22.8
   21.6
   23.2
   Plt
   287
   268
   278
   192
   289
   268
   299
   Cr
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   1.0
   0.9
   1.0
   1.1
   Glucose
   89
   116
   103
   97
   86
   86
   99
   427
   127
   126
   Other labs: PT / PTT / INR:17.1/27.6/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:14.8 %, Mono:4.4 %, Eos:7.2 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure.
   # Hypercarbic Respiratory failure: Pt is s/p trach placement. Patient
   is tolerating PSV today.  CXR shows question of right sided infiltrate
   however may have been related to positioning.
   - will continue to wean sedation given tolerating PSV
   - f/u cx data
   - reposition in bed
   .
# Hypotension/Fever:  Pt spiked a temp overnight.  Pan cultured.  UA shows evide
nce of UTI, will follow urine cultures.  Urology contact[**Name (NI) **] regarding replacement
 of foley catheter, and they declined.  Other cultures remains without growth to
 date.  Per plastics wounds described as multiple stage 2-3 ulcers with fibrinou
s bases and granulating edges. No evidence of superinfection. IV tip culture (Ac
inetobacter, Coag Neg Staph)  thought to be contaminants per ID.
- will resend c. diff toxin, will get mini-bal today
   -  Currently holding antibiotics per ID recs are will re-culture, and
   will consider re-initiating empiric abx today for urinary coverage
   likely with ceftriaxone.
   -  F/U cx data
   -  CIS
   - As patient has been markedly positive given fluids, will start on
   lasix drip to attempt to make the patient even with regards to fluid
   status
   .
   # ARF: Cr remains stable at 1.0. Good UOP.  Received 1L of free water
   this AM for Na of 150. Free water flushes currently 250cc Q2hr.
   -  monitor UOP, maintain >30cc/hour, maintain MAP>65
   .
   # Anemia: Hct remains stable at 22.  As per conversation with family,
   wife consented to blood products if absolutely necessary (i.e. during
   PEG and/or Trach surgery).  Fe studies suggest anemia of chronic
   disease.
   - continue PPI
   - trend hct
   .
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some unstageable.
   Questionable source of prior fever.
   - Remains off antibiotics.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   - f/u plastic surgery recs
   .
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN Pt Hypernatremic to 150 overnight, given 1L D5W.  Will contact IR
   for possible doboff placement
   -          Another 1L D5W this afternoon
   -          PM lytes
   -          Replace mag and phos today
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-16**] 05:37 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-16 09:26:00 Physician Attending Progress Note
Chief Complaint: resp failure
   HPI:
   24 Hour Events:
 STOOL CULTURE - At [**2161-1-15**] 12:00 PM
   r/o c -diff
 BLOOD CULTURED - At [**2161-1-15**] 05:00 PM
   venipuncture
 SPUTUM CULTURE - At [**2161-1-15**] 05:03 PM
 URINE CULTURE - At [**2161-1-15**] 05:03 PM
 BLOOD CULTURED - At [**2161-1-15**] 05:15 PM
   second set PICC
 URINE CULTURE - At [**2161-1-15**] 10:47 PM
 FEVER - 103.1
F - [**2161-1-15**] 04:00 PM
   Family Mtg - reviewed his course and answered all questions
   High fever last night with hypotension, restarted on braod spectrum ABX
   C diff +
   Sputum GNR
   Rx Vanco [**Last Name (un) **] Flagyl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2161-1-15**] 11:34 PM
   Vancomycin - [**2161-1-16**] 12:19 AM
   Meropenem - [**2161-1-16**] 06:14 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2161-1-15**] 06:18 PM
   Midazolam (Versed) - [**2161-1-15**] 06:19 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-16**] 04:18 AM
   Pantoprazole (Protonix) - [**2161-1-16**] 08:12 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2161-1-16**] 09:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.5
C (103.1
   Tcurrent: 37.5
C (99.5
   HR: 93 (84 - 122) bpm
   BP: 107/43(58) {86/31(46) - 125/65(79)} mmHg
   RR: 20 (19 - 38) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  6,636 mL
                                                                  1,547 mL
   PO:
             TF:
                                                                  1,719 mL
                                                                    752 mL
   IVF:
                                                                  3,287 mL
                                                                    745 mL
   Blood products:
   Total out:
                                                                  2,575 mL
                                                                    390 mL
   Urine:
                                                                  1,575 mL
                                                                    390 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                  4,061 mL
                                                                  1,157 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (480 - 605) mL
   PS : 16 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 97%
   ABG: ///26/
   Ve: 7.7 L/min
   Physical Examination
   Gen: intubated and sedated
   HEENT trach NGT
   CV: rr
   Chest : Diminished bS
   ABd: obese soft +BS
   Ext: 4+ edema
   Neuro: wakes to voice, following commands
   Labs / Radiology
   7.1 g/dL
   299 K/uL
   126 mg/dL
   1.1 mg/dL
   26 mEq/L
   3.3 mEq/L
   14 mg/dL
   108 mEq/L
   142 mEq/L
   23.2 %
   7.0 K/uL
        [image002.jpg]
                            [**2161-1-12**]  03:32 AM
                            [**2161-1-13**]  03:32 AM
                            [**2161-1-13**]  05:04 PM
                            [**2161-1-14**]  12:15 AM
                            [**2161-1-14**]  04:17 PM
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
                             [**2161-1-15**]  05:10 PM
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
   WBC
   6.8
   6.7
   6.9
   6.4
   6.9
   6.7
   7.0
   Hct
   22.6
   23.5
   23.0
   23.2
   22.8
   21.6
   23.2
   Plt
   287
   268
   278
   192
   289
   268
   299
   Cr
   1.2
   1.1
   1.1
   1.0
   1.0
   1.0
   1.0
   0.9
   1.0
   1.1
   Glucose
   89
   116
   103
   97
   86
   86
   99
   427
   127
   126
   Other labs: PT / PTT / INR:17.1/27.6/1.5, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:14.8 %, Mono:4.4 %, Eos:7.2 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   1.        Resp Failure: s/p trach and back on PSV 16/10
 try to wean
   to [**2162-12-28**] then push on PEEP and assess his response.
   2.       Fevers: Temp 103 dropped BP, C diff + and GNR in sputum.
   Restarted on Vanco/[**Last Name (un) **]/Tobra  for VAP
 4+ GNR is sputum, and Flagyl
   for C diff. Pan culture all lines, stool, urine
   3.       Hypotension: was fluid responsive, mentating, and urinating
   4.       ARF has improved, probably as a result of increased perfusion
   pressures. Needs ongoing IV free water deficit repletion/. Will start
   IV lasix to keep even if stable BP later today
   4.       His anemia is stable, will minimize blood draws given desire
   to avoid transfusion, but can receive transfusion if required
would
   consent from wife
   5.       Ongoing wound care per skin care team. Platelets are stable /
   improving on heparin for now.
   6.       Will continue lantus and aggressive RISS for poorly controlled
   DM2, off insulin drip.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-16**] 05:37 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT: sc hep
   Stress ulcer: PPI
   VAP: on Rx, HOB chlorhex
   Communication:  family meeting yesterday
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-01-17 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.9
F - [**2161-1-17**] 12:00 AM
   Cultured o/n
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2161-1-15**] 11:34 PM
   Meropenem - [**2161-1-16**] 01:52 PM
   Metronidazole - [**2161-1-16**] 10:02 PM
   Vancomycin - [**2161-1-17**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-16**] 08:12 AM
   Heparin Sodium (Prophylaxis) - [**2161-1-16**] 12:19 PM
   Fentanyl - [**2161-1-16**] 02:00 PM
   Midazolam (Versed) - [**2161-1-16**] 02:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-17**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 38.1
C (100.5
   HR: 95 (90 - 121) bpm
   BP: 108/43(57) {91/29(45) - 144/66(75)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,109 mL
                                                                    591 mL
   PO:
             TF:
                                                                  1,414 mL
   IVF:
                                                                  1,595 mL
                                                                    591 mL
   Blood products:
   Total out:
                                                                  1,122 mL
                                                                    250 mL
   Urine:
                                                                  1,122 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,987 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 621 (420 - 621) mL
   PS : 16 cmH2O
   RR (Spontaneous): 19
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 8.3 L/min
   Physical Examination
   Gen: intubated, awake able to communicate with nodding
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   Skin:  Warm
   Neurologic: awakes to sternal rub, seems agitated upon awakening,
   writhing in bed
   Labs / Radiology
   268 K/uL
   6.4 g/dL
   140 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   16 mg/dL
   109 mEq/L
   142 mEq/L
   21.0 %
   6.3 K/uL
        [image002.jpg]
BCx: [**2160-1-15**] GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS. (2/2 bottles)
CXR: No sig change from prior
                            [**2161-1-13**]  05:04 PM
                            [**2161-1-14**]  12:15 AM
                            [**2161-1-14**]  04:17 PM
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
                             [**2161-1-15**]  05:10 PM
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
                             [**2161-1-16**]  04:45 PM
                             [**2161-1-17**]  03:23 AM
   WBC
   6.9
   6.4
   6.9
   6.7
   7.0
   6.3
   Hct
   23.0
   23.2
   22.8
   21.6
   23.2
   21.0
   Plt
   [**Telephone/Fax (3) 4761**]
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   0.9
   1.0
   1.1
   1.1
   1.0
   Glucose
   103
   97
   86
   86
   99
   427
   127
   126
   115
   140
   Other labs: PT / PTT / INR:16.2/27.8/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:14.8 %, Mono:4.4 %, Eos:7.2 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure.
   # Hypercarbic Respiratory failure: Pt is s/p trach placement. Patient
   is tolerating PSV today.  CXR shows question of L sided infiltrate.
   Sputum positive for GNRs
   - will continue current resp support
   - f/u cx data
   - reposition in bed PRN
   .
# Hypotension/Fever:  Pt spiked a temp overnight.  Pan cultured.  UA shows evide
nce of UTI, will follow urine cultures.  Urology contact[**Name (NI) **] regarding replacement
 of foley catheter, and they declined.  Other cultures remains without growth to
 date.  Per plastics wounds described as multiple stage 2-3 ulcers with fibrinou
s bases and granulating edges. No evidence of superinfection. IV tip culture (Ac
inetobacter, Coag Neg Staph)  thought to be contaminants per ID.  BCx positive f
or Gram + cocci in clusters, chains.  L sided infilitrate on CXR.  GNRs in sputu
m.  C-diff positive.
-  started on Vanc, Zosyn, Flagyl and added Tobramycin
   -  F/U cx data
   .
   # ARF: Cr remains stable at 1.0. Good UOP.  Free water flushes
   currently 250cc Q6hr.  Monitor I&Os.
   -  monitor UOP, maintain >30cc/hour, maintain MAP>65
   .
   # Anemia: Hct remains stable.  As per conversation with family, wife
   consented to blood products if absolutely necessary (i.e. during PEG
   and/or Trach surgery).  Fe studies suggest anemia of chronic disease.
   - continue PPI
   - trend hct
   .
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some unstageable.
   Questionable source of prior fever.
   - Remains off antibiotics.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   .
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN: TFs via NGT, getting free water, Na stable
   - PM lytes
   - Replete lytes PRN
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-17 12:57:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 102.9
F - [**2161-1-17**] 12:00 AM
   Sputum Resistant Acinetobacter
   Urine > 100 Acinetobcater
   1 set S epi
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Tobramycin - [**2161-1-15**] 11:34 PM
   Meropenem - [**2161-1-16**] 01:52 PM
   Metronidazole - [**2161-1-16**] 10:02 PM
   Vancomycin - [**2161-1-17**] 12:02 PM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2161-1-16**] 02:00 PM
   Midazolam (Versed) - [**2161-1-16**] 02:20 PM
   Pantoprazole (Protonix) - [**2161-1-17**] 08:57 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2161-1-17**] 12:33 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (102.9
   Tcurrent: 37.6
C (99.7
   HR: 90 (88 - 121) bpm
   BP: 100/39(53) {91/29(45) - 144/66(75)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,109 mL
                                                                  1,060 mL
   PO:
             TF:
                                                                  1,414 mL
   IVF:
                                                                  1,595 mL
                                                                    910 mL
   Blood products:
   Total out:
                                                                  1,122 mL
                                                                    710 mL
   Urine:
                                                                  1,122 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,987 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 557 (420 - 621) mL
   PS : 16 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 6.2 L/min
   Physical Examination
   Gen: intubated and sedated
   HEENT trach NGT+++trach secretions
   CV: rr
   Chest : Diminished bS
   ABd: obese soft +BS
   Ext: 4+ edema
   Neuro: wakes to voice, following commands
   Labs / Radiology
   6.4 g/dL
   268 K/uL
   140 mg/dL
   1.0 mg/dL
   28 mEq/L
   3.7 mEq/L
   16 mg/dL
   109 mEq/L
   142 mEq/L
   21.0 %
   6.3 K/uL
        [image002.jpg]
                            [**2161-1-13**]  05:04 PM
                            [**2161-1-14**]  12:15 AM
                            [**2161-1-14**]  04:17 PM
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
                             [**2161-1-15**]  05:10 PM
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
                             [**2161-1-16**]  04:45 PM
                             [**2161-1-17**]  03:23 AM
   WBC
   6.9
   6.4
   6.9
   6.7
   7.0
   6.3
   Hct
   23.0
   23.2
   22.8
   21.6
   23.2
   21.0
   Plt
   [**Telephone/Fax (2) 4761**]
   Cr
   1.1
   1.0
   1.0
   1.0
   1.0
   0.9
   1.0
   1.1
   1.1
   1.0
   Glucose
   103
   97
   86
   86
   99
   427
   127
   126
   115
   140
   Other labs: PT / PTT / INR:16.2/27.8/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:14.8 %, Mono:4.4 %, Eos:7.2 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   1.   Acinetobacter VAP and UTI: Tobra by levels working with pharmacy.
   Speak with ID about double covering if lung penetration of Tobra is
   enough. Continue [**Last Name (un) **] siunce there is an additional GNR in the sputum.
   2.   Resp Failure: s/p trach and back on PSV 16/10. Now with active VAP
 Acinetobacter
   3.       Hypotension: was fluid responsive, mentating, and urinating.
   NO need for vasopressor support as of yet
   4.       His anemia now down to 21. Would consent from wife
   5.       Ongoing wound care per skin care team.
   6.       Will continue lantus and aggressive RISS for poorly controlled
   DM2, off insulin drip.
   ICU Care
   Nutrition: TF at goal
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT: sc hep increase to tid
   Stress ulcer:
   VAP: HOB chlorhex
   Communication:  with family
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-01-18 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2161-1-18**] 04:38 AM
   - ID Recs: D/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], Start Zosyn, Vanc 1g q8, change [**Doctor First Name 2653**] to 330 q8.
   Culture Peripheral & PICC with every fever.
   - Transfusion consent in chart from [**1-11**]
   - 4:00am: called for rigoring type behavior and tachycardia, resolve
   with fentanyl administration
   - Lines not drawing at 6:15, given TPA to clear them
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2161-1-16**] 10:02 PM
   Meropenem - [**2161-1-17**] 02:00 PM
   Vancomycin - [**2161-1-17**] 09:55 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-17**] 09:55 PM
   Tobramycin - [**2161-1-17**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-17**] 08:00 PM
   Fentanyl - [**2161-1-18**] 04:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-18**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.7
C (98.1
   HR: 119 (80 - 119) bpm
   BP: 140/60(79) {94/35(48) - 140/62(79)} mmHg
   RR: 21 (12 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  2,720 mL
                                                                    582 mL
   PO:
             TF:
                                                                    400 mL
                                                                    353 mL
   IVF:
                                                                  2,080 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    295 mL
   Urine:
                                                                  1,165 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,555 mL
                                                                    287 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 723 (420 - 723) mL
   PS : 16 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   SpO2: 97%
   ABG: ///27/
   Ve: 13.5 L/min
   Physical Examination
   Gen: intubated, responsive to voice attempting to communicate but
   unsuccessful
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   Skin:  Warm
   Neurologic:  moving all extremities, attempting to communicate
   Labs / Radiology
   307 K/uL
   7.3 g/dL
   131 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   21 mg/dL
   107 mEq/L
   141 mEq/L
   25.0 %
   5.8 K/uL
        [image002.jpg]
   Urine:  [**2162-1-14**] Acinetobacter and Enterobacter
   Sputum:  [**2161-1-15**]  Acinetobacter
   Blood:  Drawn from PICC positive for coagulase negative staph in two
   bottles on [**2161-1-15**], other blood cultures no growth to date from [**2161-1-15**]
   and [**2161-1-17**]
   C. Diff positive [**2161-1-15**]
                            [**2161-1-14**]  12:15 AM
                            [**2161-1-14**]  04:17 PM
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
                             [**2161-1-15**]  05:10 PM
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
                             [**2161-1-16**]  04:45 PM
                             [**2161-1-17**]  03:23 AM
                             [**2161-1-18**]  03:27 AM
   WBC
   6.4
   6.9
   6.7
   7.0
   6.3
   5.8
   Hct
   23.2
   22.8
   21.6
   23.2
   21.0
   25.0
   Plt
   192
   289
   268
   299
   268
   307
   Cr
   1.0
   1.0
   1.0
   1.0
   0.9
   1.0
   1.1
   1.1
   1.0
   1.2
   Glucose
   97
   86
   86
   99
   427
   127
   126
   115
   140
   131
   Other labs: PT / PTT / INR:16.2/27.8/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:14.8 %, Mono:4.4 %, Eos:7.2 %, Fibrinogen:683 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure found to have
   Acinetobacter in sputum & urine.
   # Acinetobacter pneumonia: Pt is s/p trach placement. Patient is
   tolerating PSV today.  CXR shows question of L sided infiltrate as
   patient continues to have fever. Sputum positive for GNRs:
   acinetobacter.
   - Continue Tobramycin, Flagyl, Zosyn, and Vancomycin for now.
   - considering Acinetobacter is only intermediate to zosyn, will contact
   ID about switching to unasyn or if it is sufficiently covered with
   tobramycin and vancomycin.
   - Follow Tobramycin and Vancomycin levels daily
   - reposition in bed PRN
   - Fever curve
   - ID Consult re: double coverage.
   #.  Bacteremia?:  Blood cultures drawn from PICC grew coagulase
   negative staph, however other blood cultures are no growth to date.
   Also, catheter tip grew acinetobacter from last Saturday, may have been
   source of pneumonia and UTI, however also could be colonized and tip
   contaminated prior to culture.  Will monitor closely for signs of
   sepsis.   PICC drawing for now.  Will readdress access today, pt may
   require central line or midline placement.
   # Anemia: Hct stable today, up from 21 to 25.  Will discuss
   transfusions with the patient
s wife/HCP.  Fe studies suggest anemia of
   chronic disease.
   - continue PPI
   - trend hct
# C.Diff colitis:  Patient is C diff positive from [**2161-1-15**]
- continue Flagyl
   # UTI: Patient
s urine culture positive for acinetobacter on [**2162-1-14**]
   - Continue Tobramycin, Vancomycin, Zosyn and flagyl and discuss with ID
   # ARF: Resolved.  However Crn trending back up today.  [**Month (only) 51**] be
   intravascularly deplete.  Will fluid resuscitate for persistent
   hypotension.
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some unstageable.
   Questionable source of prior fever.
   - Remains off antibiotics.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN: TFs via NGT, getting free water, Na stable
   - PM lytes
   - Replete lytes PRN
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-17**] 07:00 PM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-18 11:20:00 Physician Attending Progress Note
Chief Complaint: resp failure, morbid obesity, VAP, bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2161-1-18**] 04:38 AM
   Blood Cx + S epi
   PICC not drawing
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2161-1-16**] 10:02 PM
   Meropenem - [**2161-1-17**] 02:00 PM
   Vancomycin - [**2161-1-18**] 04:01 AM
   Tobramycin - [**2161-1-18**] 06:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-18**] 06:02 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-1-17**] 08:00 PM
   Fentanyl - [**2161-1-18**] 04:38 AM
   Pantoprazole (Protonix) - [**2161-1-18**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2161-1-18**] 11:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 107 (80 - 119) bpm
   BP: 94/50(59) {88/35(48) - 140/62(79)} mmHg
   RR: 28 (12 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 71 Inch
             Total In:
                                                                  2,720 mL
                                                                  1,684 mL
   PO:
             TF:
                                                                    400 mL
                                                                    708 mL
   IVF:
                                                                  2,080 mL
                                                                    636 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                  1,125 mL
   Urine:
                                                                  1,165 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,555 mL
                                                                    559 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 550 (471 - 723) mL
   PS : 16 cmH2O
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   SpO2: 98%
   ABG: ///27/
   Ve: 10.8 L/min
   Physical Examination
   Gen: intubated and sedated
   HEENT trach NGT+++trach secretions
   CV: rr
   Chest : Diminished bS
   ABd: obese soft +BS
   Ext: 4+ edema
   Neuro: wakes to voice, following commands
   Labs / Radiology
   7.3 g/dL
   307 K/uL
   131 mg/dL
   1.2 mg/dL
   27 mEq/L
   3.8 mEq/L
   21 mg/dL
   107 mEq/L
   141 mEq/L
   25.0 %
   5.8 K/uL
        [image002.jpg]
                            [**2161-1-14**]  12:15 AM
                            [**2161-1-14**]  04:17 PM
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
                             [**2161-1-15**]  05:10 PM
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
                             [**2161-1-16**]  04:45 PM
                             [**2161-1-17**]  03:23 AM
                             [**2161-1-18**]  03:27 AM
   WBC
   6.4
   6.9
   6.7
   7.0
   6.3
   5.8
   Hct
   23.2
   22.8
   21.6
   23.2
   21.0
   25.0
   Plt
   192
   289
   268
   299
   268
   307
   Cr
   1.0
   1.0
   1.0
   1.0
   0.9
   1.0
   1.1
   1.1
   1.0
   1.2
   Glucose
   97
   86
   86
   99
   427
   127
   126
   115
   140
   131
   Other labs: PT / PTT / INR:16.2/27.8/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:14.8 %, Mono:4.4 %, Eos:7.2 %, Fibrinogen:683 mg/dL, Lactic
   Acid:0.9 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.1 mg/dL
   Sputum 4+ Acinetobacter sensi Tobra, Unasyn  Ebacter sensi Tobraq
   Urine    Acinetobacter same sensi
   PICC    both bottles + S epi
   Peripheral Blood CX neg x 2 sets
   C diff +
   Assessment and Plan
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   Morbidly obese man with resp. failure now with Acinetobacter VAP and
   UTI and S epi from PICC
   1.  Acinetobacter VAP and UTI: Tobra by levels - working with pharmacy.
   ID had added empiric Zosyn but both Acinetobacter and Ebacter
   resistant. Would d/c and add back  [**Last Name (un) 614**]. Serial blood cx.
   2. S epi:  off PICC x 1 set cx
 repeat as peripheral cx are neg to
   date x 2. That said, may want to swap out PICC  for PIV if able or CVL
 since PICC is bordeline drawing and we have single + CX.
   3.   Resp Failure: s/p trach and back on PSV 16/10. Now with active VAP
 Acinetobacter not in a weaning mode
   4.       Anemia : stable TX for less than 21
   5.       Ongoing wound care per skin care team.
   6.       Will continue lantus and aggressive RISS for poorly controlled
   DM2, off insulin drip.
   remaining issues as per Housetaff
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-18**] 09:58 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT: sc hep increased to TID
   Stress ulcer: PPI
   VAP: - He has one! We have been using chlorhex, trying head of bed
   elevation but limted by bed positioning due to size.
   Communication:  with family at bedside
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2161-01-19 06:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2161-1-18**] 12:00 PM
   off PICC
 BLOOD CULTURED - At [**2161-1-19**] 03:12 AM
 FEVER - 101.1
F - [**2161-1-18**] 12:00 PM
   - Stopped zosyn, replaced with unasyn 3mg Q4H per ID and confirmed
   dosing with pharmacy for acinetobacter and enterobacter.
   - Vanc held for level > 20 x 2 doses
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2161-1-17**] 02:00 PM
   Vancomycin - [**2161-1-18**] 04:01 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-18**] 06:02 AM
   Tobramycin - [**2161-1-19**] 01:07 AM
   Ampicillin/Sulbactam (Unasyn) - [**2161-1-19**] 04:00 AM
   Metronidazole - [**2161-1-19**] 04:02 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-1-18**] 08:09 PM
   Midazolam (Versed) - [**2161-1-19**] 02:45 AM
   Fentanyl - [**2161-1-19**] 03:45 AM
   Heparin Sodium (Prophylaxis) - [**2161-1-19**] 04:02 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-19**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.2
C (100.7
   HR: 105 (84 - 134) bpm
   BP: 108/32(51) {88/32(49) - 145/88(126)} mmHg
   RR: 20 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,523 mL
                                                                  1,348 mL
   PO:
                                                                     80 mL
             TF:
                                                                  1,723 mL
                                                                    511 mL
   IVF:
                                                                  1,100 mL
                                                                    528 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                    385 mL
   Urine:
                                                                  1,830 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,543 mL
                                                                    963 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 677 (550 - 677) mL
   PS : 16 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 50%
   PIP: 27 cmH2O
   SpO2: 99%
   ABG: ///28/
   Ve: 12.2 L/min
   Physical Examination
   Gen: intubated, responsive to voice attempting to communicate but
   unsuccessful
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   Skin:  Warm
   Neurologic:  moving all extremities, attempting to communicate
   Labs / Radiology
   326 K/uL
   6.8 g/dL
   125 mg/dL
   1.2 mg/dL
   28 mEq/L
   3.4 mEq/L
   22 mg/dL
   108 mEq/L
   141 mEq/L
   22.9 %
   6.0 K/uL
        [image002.jpg]
                            [**2161-1-14**]  04:17 PM
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
                             [**2161-1-15**]  05:10 PM
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
                             [**2161-1-16**]  04:45 PM
                             [**2161-1-17**]  03:23 AM
                             [**2161-1-18**]  03:27 AM
                             [**2161-1-19**]  03:27 AM
   WBC
   6.9
   6.7
   7.0
   6.3
   5.8
   6.0
   Hct
   22.8
   21.6
   23.2
   21.0
   25.0
   22.9
   Plt
   [**Telephone/Fax (3) 4804**]
   Cr
   1.0
   1.0
   1.0
   0.9
   1.0
   1.1
   1.1
   1.0
   1.2
   1.2
   Glucose
   86
   86
   99
   427
   127
   126
   115
   140
   131
   125
   Other labs: PT / PTT / INR:16.2/27.8/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:40/41, Alk Phos / T Bili:68/0.4,
   Amylase / Lipase:37/87, Differential-Neuts:73.0 %, Band:0.0 %,
   Lymph:14.8 %, Mono:4.4 %, Eos:7.2 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:688 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure found to have
   Acinetobacter in sputum & urine.
   # Acinetobacter pneumonia: Pt is s/p trach placement. Patient is
   tolerating PSV today.  CXR shows question of L sided infiltrate as
   patient continues to have fever. Sputum positive for GNRs:
   acinetobacter.
   - Continue Tobramycin, Flagyl, Unasyn, and Vancomycin
   - Follow Tobramycin and Vancomycin levels daily
   - reposition in bed PRN-attempt to sit upright as much as possible
   - Fever curve
   - ID recs
   #.  Bacteremia?:  Blood cultures drawn from PICC grew coagulase
   negative staph, however other blood cultures are no growth to date.
   Also, catheter tip grew acinetobacter from last Saturday, may have been
   source of pneumonia and UTI, however also could be colonized and tip
   contaminated prior to culture.  Will monitor closely for signs of
   sepsis.   PICC drawing for now.
   -Will place IJ today
   # Anemia: Hct stable today, up from 21 to 25.  Will discuss
   transfusions with the patient
s wife/HCP.  Fe studies suggest anemia of
   chronic disease.
   - continue PPI
   - trend hct current goal 21, patient Jehovah
s witness, and will
   discuss need for transfusion with further HCT drop
# C.Diff colitis:  Patient is C diff positive from [**2161-1-15**]
- continue Flagyl on day 4
-Continue observe amount of stool produced, if further increase, consider PO [**Doctor Last Name **]
   # UTI: Patient
s urine culture positive for acinetobacter on [**2162-1-14**]
   - Continue Tobramycin, Vancomycin, Unasyn and flagyl
   - Wait for cultures as currently covered broadly
   -follow ID recs
   # ARF: Resolved.  However Crn trending back up today.  [**Month (only) 51**] be
   intravascularly deplete.  Will fluid resuscitate as needed if
   hypotension returns
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some unstageable.
   Questionable source of prior fever.
   - Remains off antibiotics.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN: TFs via NGT, getting free water, Na stable
   - PM lytes
   - Replete lytes PRN
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-18**] 09:39 PM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-20 07:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Fentanyl patch off
   -Zyprexa increased to 7.5 in evening to attempt better sleep and
   improve mental status
   -UA positive but on broad spectrum [**Last Name (LF) **], [**First Name3 (LF) **] wait for culture before
   changing
   -Lasix drip for diuresis and ablity to titrate to BP and UOP of 100
   cc/hr
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2161-1-17**] 02:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2161-1-18**] 06:02 AM
   Metronidazole - [**2161-1-19**] 04:02 AM
   Tobramycin - [**2161-1-19**] 08:15 PM
   Vancomycin - [**2161-1-19**] 08:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2161-1-20**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2161-1-19**] 03:56 PM
   Fentanyl - [**2161-1-20**] 02:45 AM
   Heparin Sodium (Prophylaxis) - [**2161-1-20**] 04:00 AM
   Midazolam (Versed) - [**2161-1-20**] 05:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-20**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100
   HR: 82 (76 - 121) bpm
   BP: 107/41(56) {92/37(49) - 132/74(87)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,834 mL
                                                                  1,274 mL
   PO:
             TF:
                                                                  1,920 mL
                                                                    579 mL
   IVF:
                                                                  1,734 mL
                                                                    445 mL
   Blood products:
   Total out:
                                                                  2,890 mL
                                                                  1,960 mL
   Urine:
                                                                  2,890 mL
                                                                    960 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,944 mL
                                                                   -686 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 950 (479 - 950) mL
   PS : 16 cmH2O
   RR (Spontaneous): 22
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 53
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   SpO2: 100%
   ABG: ///29/
   NIF: -25 cmH2O
   Ve: 12.4 L/min
   Physical Examination
   Gen: intubated, responsive to voice attempting to communicate but
   unsuccessful
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   Skin:  Warm
   Neurologic:  moving all extremities, attempting to communicate, pulling
   at restraints
   Labs / Radiology
   360 K/uL
   6.7 g/dL
   174 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.5 mEq/L
   23 mg/dL
   107 mEq/L
   141 mEq/L
   22.1 %
   7.1 K/uL
        [image002.jpg] CXR: None today
   Micro: UCx, BCx pending
                            [**2161-1-14**]  10:30 PM
                             [**2161-1-15**]  02:53 AM
                             [**2161-1-15**]  05:10 PM
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
                             [**2161-1-16**]  04:45 PM
                             [**2161-1-17**]  03:23 AM
                             [**2161-1-18**]  03:27 AM
                             [**2161-1-19**]  03:27 AM
                             [**2161-1-20**]  03:10 AM
   WBC
   6.9
   6.7
   7.0
   6.3
   5.8
   6.0
   7.1
   Hct
   22.8
   21.6
   23.2
   21.0
   25.0
   22.9
   22.1
   Plt
   [**Telephone/Fax (2) 4804**]
   360
   Cr
   1.0
   1.0
   0.9
   1.0
   1.1
   1.1
   1.0
   1.2
   1.2
   1.2
   Glucose
   86
   99
   427
   127
   126
   115
   140
   131
   125
   174
   Other labs: PT / PTT / INR:16.2/27.8/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:22/29, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:37/87, Differential-Neuts:66.2 %, Band:1.0 %,
   Lymph:17.8 %, Mono:6.1 %, Eos:9.6 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:596 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure found to have
   Acinetobacter in sputum & urine.
   # Acinetobacter pneumonia: Pt is s/p trach placement. Patient is
   tolerating PSV today.  CXR shows question of L sided infiltrate as
   patient continues to have fever. Sputum positive for GNRs:
   acinetobacter.
   - Hold Tobramycin & Vancomycin pending redosing by Trough
   - Continue Unasyn
   - Follow Tobramycin and Vancomycin levels daily
   - reposition in bed PRN-attempt to sit upright as much as possible
   - Fever curve
   - ID recs
   # Capacity:  The patient is expressing a desire to withdraw care.
   Communication is difficult due to trach & mental status
   - Place Passey-Muir Valve to facilitate communication
   - Consult Psych
   #.  Bacteremia:  Blood cultures drawn from PICC grew coagulase negative
   staph, however other blood cultures are no growth to date.  Also,
   catheter tip grew acinetobacter from last Saturday, may have been
   source of pneumonia and UTI, however also could be colonized and tip
   contaminated prior to culture.  Will monitor closely for signs of
   sepsis.   PICC drawing for now.
   -Will attempt place IJ today
   # Anemia: Hct stable today, up from 21 to 25.
   - continue PPI
   - trend hct current goal 21, patient Jehovah
s witness, and will
   discuss need for transfusion with further HCT drop
# C.Diff colitis:  Patient is C diff positive from [**2161-1-15**]
- continue Flagyl on day 4
-Continue observe amount of stool produced, if further increase, consider PO [**Doctor Last Name **]
   # UTI: Patient
s urine culture positive for acinetobacter on [**2162-1-14**]
   - Continue Tobramycin, Vancomycin, Unasyn and flagyl
   - Wait for cultures as currently covered broadly
   -follow ID recs
   # ARF: Resolved.  However Crn trending back up today.  [**Month (only) 51**] be
   intravascularly deplete.  Will fluid resuscitate as needed if
   hypotension returns
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some unstageable.
   Questionable source of prior fever.
   - Remains off antibiotics.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN: TFs via NGT, Decrease free water, Na stable
   - PM lytes
   - Replete lytes PRN
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-19**] 10:23 PM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-21 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   PMV placed, limited communication. Psych consulted but unable to rule
   patient competent.  Patient clearly communicating wishes to withdraw
   his care, but mental status cannot be cleared at this time.  Line/Foley
   placement pending.
   Pt appears more lucid and calm today.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2161-1-19**] 04:02 AM
   Tobramycin - [**2161-1-19**] 08:15 PM
   Vancomycin - [**2161-1-19**] 08:30 PM
   Ampicillin/Sulbactam (Unasyn) - [**2161-1-21**] 04:49 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2161-1-20**] 05:40 PM
   Fentanyl - [**2161-1-20**] 05:40 PM
   Heparin Sodium (Prophylaxis) - [**2161-1-20**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-21**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.1
C (98.8
   HR: 85 (77 - 106) bpm
   BP: 118/56(70) {104/41(56) - 134/64(77)} mmHg
   RR: 17 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,372 mL
                                                                  1,153 mL
   PO:
             TF:
                                                                  1,908 mL
                                                                    560 mL
   IVF:
                                                                  1,114 mL
                                                                    493 mL
   Blood products:
   Total out:
                                                                  5,530 mL
                                                                  1,830 mL
   Urine:
                                                                  4,530 mL
                                                                  1,080 mL
   NG:
   Stool:
   750 mL
   Drains:
   Balance:
                                                                 -2,158 mL
                                                                   -677 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 502 (478 - 721) mL
   PS : 12 cmH2O
   RR (Spontaneous): 20
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: ///31/
   Ve: 9.5 L/min
   Physical Examination
   Gen: intubated, responsive to voice attempting to communicate but
   unsuccessful
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   ABD:  Obese, +BS, rectal tube in place
   Skin:  Warm
   Neurologic:  moving all extremities, attempting to communicate, pulling
   at restraints
   Labs / Radiology
   331 K/uL
   7.2 g/dL
   105 mg/dL
   1.1 mg/dL
   31 mEq/L
   3.6 mEq/L
   22 mg/dL
   109 mEq/L
   145 mEq/L
   23.7 %
   7.5 K/uL
        [image002.jpg]
                             [**2161-1-15**]  02:53 AM
                             [**2161-1-15**]  05:10 PM
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
                             [**2161-1-16**]  04:45 PM
                             [**2161-1-17**]  03:23 AM
                             [**2161-1-18**]  03:27 AM
                             [**2161-1-19**]  03:27 AM
                             [**2161-1-20**]  03:10 AM
                             [**2161-1-21**]  03:31 AM
   WBC
   6.9
   6.7
   7.0
   6.3
   5.8
   6.0
   7.1
   7.5
   Hct
   22.8
   21.6
   23.2
   21.0
   25.0
   22.9
   22.1
   23.7
   Plt
   [**Telephone/Fax (3) 4870**]31
   Cr
   1.0
   0.9
   1.0
   1.1
   1.1
   1.0
   1.2
   1.2
   1.2
   1.1
   Glucose
   99
   427
   127
   126
   115
   140
   131
   125
   174
   105
   Other labs: PT / PTT / INR:16.2/27.8/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:22/29, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:37/87, Differential-Neuts:66.2 %, Band:1.0 %,
   Lymph:17.8 %, Mono:6.1 %, Eos:9.6 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:596 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.6 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure found to have
   Acinetobacter in sputum & urine.
   # Acinetobacter pneumonia: Pt is s/p trach placement. Patient is
   tolerating PSV today.  CXR shows question of L sided infiltrate as
   patient continues to have fever. Sputum positive for GNRs:
   acinetobacter.
   - Continue Tobramycin & Vancomycin.  Dosing per ID pharm will give
   Tobra 1000mg Q48H starting at 8pm tonight, will check level on Friday
   at 7:30pm.  Will dose vancomycin 750mg Q24h, with level on Friday as
   well.
   - Continue Unasyn
   - reposition in bed PRN-attempt to sit upright as much as possible with
   PT and special equipment
   - Fever curve
   - ID recs
   # Capacity:  The patient yesterday was expressing a desire to withdraw
   care, however today seems more optimistic and lucid.  Will continue to
   attempt discussion with Passey-Muir Valve
   - Follow Psych recs
   #.  Bacteremia:  Blood cultures drawn from PICC grew coagulase negative
   staph, however other blood cultures are no growth to date.  Also,
   catheter tip grew acinetobacter from last Saturday, may have been
   source of pneumonia and UTI, however also could be colonized and tip
   contaminated prior to culture.   No subsequent blood cultures
   positive.  Likely both blood cultures contaminent.  Will monitor
   closely for signs of sepsis.   Keep PICC in place for now.
   - complete course of vancomycin currently on day 7, will continue for
   at least 10 days and set course with ID
   # Anemia: Hct stable today at 23.7.
   - continue PPI
   - trend hct current goal 21, patient Jehovah
s witness, and will
   discuss need for transfusion with further HCT drop
# C.Diff colitis:  Patient is C diff positive from [**2161-1-15**]
- continue Flagyl on day 5
-Continue observe amount of stool produced, if further increase, consider PO [**Doctor Last Name **]
   # UTI: Patient
s urine culture positive for acinetobacter on [**2162-1-14**],
   subsequent have fecal contamination
   - Continue Tobramycin, Vancomycin, Unasyn and flagyl
   - Wait for cultures as currently covered broadly
   -follow ID recs
   # ARF: Resolved.  However Crn trending back up today.  [**Month (only) 51**] be
   intravascularly deplete.  Will fluid resuscitate as needed if
   hypotension returns.  Will continue to diurese with lasix drip and goal
   of 2L negative per day.
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some unstageable.
   Questionable source of prior fever.
   - Remains off antibiotics.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN: TFs via NGT, Decrease free water, Na stable
   - PM lytes
   - Replete lytes PRN
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-20**] 11:32 PM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:  Hep SC TID
   Stress ulcer:  PPI
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-22 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt determined to have capacity, much more lucid today delirium
   resolved.  Pt signed HCP paperwork and appointed father as HCP.
   - Possible transfer to Radius today
   - PT to get pt sitting up, OT consult placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2161-1-21**] 08:36 AM
   Metronidazole - [**2161-1-21**] 02:09 PM
   Tobramycin - [**2161-1-21**] 11:12 PM
   Ampicillin/Sulbactam (Unasyn) - [**2161-1-22**] 04:11 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2161-1-21**] 08:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-22**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 88 (82 - 99) bpm
   BP: 130/67(81) {98/50(64) - 147/73(86)} mmHg
   RR: 22 (12 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,328 mL
                                                                  1,120 mL
   PO:
             TF:
                                                                  1,925 mL
                                                                    573 mL
   IVF:
                                                                  1,862 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  6,010 mL
                                                                    830 mL
   Urine:
                                                                  5,260 mL
                                                                    830 mL
   NG:
   Stool:
                                                                    750 mL
   Drains:
   Balance:
                                                                 -1,682 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 428 (428 - 633) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.40/56/91.[**Numeric Identifier 143**]/33/7
   Ve: 8.3 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Gen: intubated, responsive to voice attempting to communicate but
   unsuccessful
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal). No m/r/g. Distant
   Respiratory / Chest: (Breath Sounds: Diminished: ) Clear
   ABD:  Obese, +BS, rectal tube in place
   Skin:  Warm
   Neurologic:  moving all extremities, attempting to communicate, pulling
   at restraints
   Labs / Radiology
   356 K/uL
   7.4 g/dL
   124 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.8 mEq/L
   21 mg/dL
   104 mEq/L
   145 mEq/L
   23.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2161-1-15**]  07:50 PM
                             [**2161-1-16**]  03:08 AM
                             [**2161-1-16**]  04:45 PM
                             [**2161-1-17**]  03:23 AM
                             [**2161-1-18**]  03:27 AM
                             [**2161-1-19**]  03:27 AM
                             [**2161-1-20**]  03:10 AM
                             [**2161-1-21**]  03:31 AM
                             [**2161-1-22**]  12:55 AM
                             [**2161-1-22**]  02:57 AM
   WBC
   7.0
   6.3
   5.8
   6.0
   7.1
   7.5
   8.4
   Hct
   23.2
   21.0
   25.0
   22.9
   22.1
   23.7
   23.5
   Plt
   299
   268
   307
   326
   360
   331
   356
   Cr
   1.0
   1.1
   1.1
   1.0
   1.2
   1.2
   1.2
   1.1
   1.0
   TCO2
   36
   Glucose
   127
   126
   115
   140
   131
   125
   174
   105
   124
   Other labs: PT / PTT / INR:16.2/27.8/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:22/29, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:37/87, Differential-Neuts:66.2 %, Band:1.0 %,
   Lymph:17.8 %, Mono:6.1 %, Eos:9.6 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:596 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.5 mg/dL
   Imaging: None
   Microbiology: None
   Assessment and Plan
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure found to have
   Acinetobacter in sputum & urine.
   # Acinetobacter pneumonia: Pt is s/p trach placement. Patient is
   tolerating PSV today.  CXR shows question of L sided infiltrate as
   patient continues to have fever. Sputum positive for GNRs:
   acinetobacter.
   - Continue Tobramycin & Vancomycin.  Dosing per ID pharm will give
   Tobra 1000mg Q48H starting at 8pm tonight, will check level on Friday
   at 7:30pm.  Will dose vancomycin 750mg Q24h, with level on Friday as
   well.
   - Continue Unasyn
   - reposition in bed PRN-attempt to sit upright as much as possible with
   PT and special equipment
   - Fever curve
   - ID recs
   # Capacity:  The patient yesterday was expressing a desire to withdraw
   care, however today seems more optimistic and lucid.  Will continue to
   attempt discussion with Passey-Muir Valve
   - Follow Psych recs
   #.  Bacteremia:  Blood cultures drawn from PICC grew coagulase negative
   staph, however other blood cultures are no growth to date.  Also,
   catheter tip grew acinetobacter from last Saturday, may have been
   source of pneumonia and UTI, however also could be colonized and tip
   contaminated prior to culture.   No subsequent blood cultures
   positive.  Likely both blood cultures contaminent.  Will monitor
   closely for signs of sepsis.   Keep PICC in place for now.
   - complete course of vancomycin currently on day 7, will continue for
   at least 10 days and set course with ID
   # Anemia: Hct stable today at 23.7.
   - continue PPI
   - trend hct current goal 21, patient Jehovah
s witness, and will
   discuss need for transfusion with further HCT drop
# C.Diff colitis:  Patient is C diff positive from [**2161-1-15**]
- continue Flagyl on day 5
-Continue observe amount of stool produced, if further increase, consider PO [**Doctor Last Name **]
   # UTI: Patient
s urine culture positive for acinetobacter on [**2162-1-14**],
   subsequent have fecal contamination
   - Continue Tobramycin, Vancomycin, Unasyn and flagyl
   - Wait for cultures as currently covered broadly
   -follow ID recs
   # ARF: Resolved.  However Crn trending back up today.  [**Month (only) 51**] be
   intravascularly deplete.  Will fluid resuscitate as needed if
   hypotension returns.  Will continue to diurese with lasix drip and goal
   of 2L negative per day.
   # Skin Breakdown: Multiple areas of stage 2-3 decubs. Some unstageable.
   Questionable source of prior fever.
   - Remains off antibiotics.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   # Type 2 DM: FS under control
   - Cont Insulin SS
   .
   # FEN: TFs via NGT, Decrease free water, Na stable
   - PM lytes
   - Replete lytes PRN
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-22**] 12:28 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-01-23 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2160-1-22**]
   -Per CM has bed for rehab tomorrow
   -Attempt to decrease PEEP from 10->8, tolerated well, increased to 10
   for dressing change only
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2161-1-21**] 02:09 PM
   Tobramycin - [**2161-1-21**] 11:12 PM
   Vancomycin - [**2161-1-22**] 08:35 AM
   Ampicillin/Sulbactam (Unasyn) - [**2161-1-23**] 03:58 AM
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2161-1-22**] 10:08 AM
   Heparin Sodium (Prophylaxis) - [**2161-1-23**] 04:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-1-23**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.2
   HR: 94 (87 - 100) bpm
   BP: 129/49(66) {115/49(65) - 151/98(102)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  4,013 mL
                                                                    998 mL
   PO:
             TF:
                                                                  1,945 mL
                                                                    553 mL
   IVF:
                                                                  1,668 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                  4,260 mL
                                                                  1,900 mL
   Urine:
                                                                  4,260 mL
                                                                  1,900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -247 mL
                                                                   -902 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 504 (467 - 993) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: ///33/
   Ve: 11.8 L/min
   Physical Examination
   Gen: Trach connected to ventilator. Interactive and awake, limited
   verbal responsiveness.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: S1 & S2 regular without murmur, distant
   Respiratory / Chest: Clear but diminshed
   ABD:  Obese, +BS, rectal tube in place
   Skin:  Warm
   Neurologic:  AAOx3, calm
   Labs / Radiology
   324 K/uL
   6.9 g/dL
   117 mg/dL
   1.0 mg/dL
   33 mEq/L
   3.6 mEq/L
   18 mg/dL
   101 mEq/L
   140 mEq/L
   21.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2161-1-16**]  04:45 PM
                             [**2161-1-17**]  03:23 AM
                             [**2161-1-18**]  03:27 AM
                             [**2161-1-19**]  03:27 AM
                             [**2161-1-20**]  03:10 AM
                             [**2161-1-21**]  03:31 AM
                             [**2161-1-22**]  12:55 AM
                             [**2161-1-22**]  02:57 AM
                             [**2161-1-22**]  06:42 PM
                             [**2161-1-23**]  03:38 AM
   WBC
   6.3
   5.8
   6.0
   7.1
   7.5
   8.4
   7.4
   Hct
   21.0
   25.0
   22.9
   22.1
   23.7
   23.5
   21.7
   Plt
   [**Telephone/Fax (3) 4912**]
   324
   Cr
   1.1
   1.0
   1.2
   1.2
   1.2
   1.1
   1.0
   0.9
   1.0
   TCO2
   36
   Glucose
   115
   140
   131
   125
   174
   105
   124
   126
   117
   Other labs: PT / PTT / INR:16.2/27.8/1.4, CK / CKMB /
   Troponin-T:600/9/0.02, ALT / AST:22/29, Alk Phos / T Bili:72/0.3,
   Amylase / Lipase:37/87, Differential-Neuts:66.2 %, Band:1.0 %,
   Lymph:17.8 %, Mono:6.1 %, Eos:9.6 %, Fibrinogen:683 mg/dL, Lactic
   Acid:1.2 mmol/L, Albumin:2.5 g/dL, LDH:596 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   49M with PMH of morbid obesity, type 2 DM, and hypertension admitted
   with shock, respiratory failure, and acute renal failure found to have
   Acinetobacter in sputum & urine.
   # ID:  Patient has evidence of Acinetobacter PNA & UTI with Coagulase
   negative staph bacterermia & C.diff colitis.  He remains afebrile and
   is tolerating therapy well with consistent sputum production. ID is
   consulted and advising.
   -          Vancomycin 750mg IV Q24 until [**2161-1-24**] (with dosing by
   trough)
   -          Tobramycin 1g IV Q48 & Unasyn 3g IV Q4hours until [**2161-1-31**]
   (with dosing by trough)
   -          Flagyl 500mg IV TID until 5 days post tobramycin/Unasyn
   ([**2161-2-5**])
   -          Twice weekly tobra/vancomycin troughs with CBC, BMP, LFTs to
   be faxed to [**Telephone/Fax (1) 4896**] attention Dr. [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 4897**], [**Telephone/Fax (1) 4898**].
   # Anemia: Hct continues to trend upwards, today at 23.5.  Per the
   patient
s wishes, he does not want transfusions unless absolutely
   necessary and so we will not transfuse at this time.
   - continue PPI
   # ARF: Resolved.  The patient remains considerably fluid overloaded
   during this admission.
   - Continue Lasix gtt for goal of 2L negative daily, switch to bolus as
   needed
   # Skin Breakdown: Multiple areas of stage 2-3 decubs.
   - Extensive wound care recs
   - miconazole cream/ powder to affected areas
   # Type 2 DM: FS under control
   - Cont Insulin SS
   FEN: TFs via NGT, Replete lytes PRN
   Access: PICC line
   Code: Full
   Dispo: [**Hospital 997**] rehab bed scheduled for [**2160-1-23**]
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 COMMUNICATE FUNCTIONALLY, INABILITY TO
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 VENTILATION, IMPAIRED
 INEFFECTIVE COPING
 THROMBOCYTOPENIA, ACUTE
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 DIABETES MELLITUS (DM), TYPE II
 OBESITY (INCLUDING OVERWEIGHT, MORBID OBESITY)
 IMPAIRED SKIN INTEGRITY
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2161-1-23**] 01:08 AM 80 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2161-1-9**] 03:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: